2130-04-09 06:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hypoxia
   24 Hour Events:
 BRONCHOSCOPY - At [**2130-4-8**] 04:30 PM
 FEVER - 101.3
F - [**2130-4-9**] 04:00 AM
   [**2130-4-8**]
   -underwent bronch, no obvious mucus plugs, friable tissue
   -increased [**Location (un) 257**]/red sputum overnight
   -temp 101.3 in am (pancultured)
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Meropenem - [**2130-4-7**] 06:00 PM
   Ciprofloxacin - [**2130-4-7**] 10:30 PM
   Vancomycin - [**2130-4-8**] 08:58 AM
   Piperacillin - [**2130-4-9**] 02:00 AM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Lepirudin - 0.05 mg/Kg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-4-8**] 10:02 AM
   Fentanyl - [**2130-4-8**] 04:30 PM
   Midazolam (Versed) - [**2130-4-8**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-9**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.5
C (101.3
   HR: 123 (58 - 124) bpm
   BP: 88/56(68) {81/52(61) - 110/68(85)} mmHg
   RR: 20 (9 - 27) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
    CVP: 6 (6 - 11)mmHg
   Total In:
                                                                  1,719 mL
                                                                    350 mL
   PO:
   TF:
   IVF:
                                                                  1,659 mL
                                                                    350 mL
   Blood products:
   Total out:
                                                                  1,405 mL
                                                                    220 mL
   Urine:
                                                                  1,405 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    314 mL
                                                                    130 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 394 (394 - 519) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 78
   PIP: 16 cmH2O
   Plateau: 24 cmH2O
   Compliance: 26.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.49/47/115/32/11
   Ve: 8.1 L/min
   PaO2 / FiO2: 329
   Physical Examination
   General: Alert, oriented, tachypnic with rapid shallow breaths
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, mildly elevated JVP
   Lungs: Diminshed breath sounds on the left, scattered crackles on R
   CV: Tachycardic, s1/s2 present, no murmurs appreciated
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: foley in place
   Ext: warm, well perfused, 2+ pulses, 1+ pitting edema to mid-shin
   Labs / Radiology
   96 K/uL
   12.8 g/dL
   140 mg/dL
   1.4 mg/dL
   32 mEq/L
   4.3 mEq/L
   37 mg/dL
   94 mEq/L
   135 mEq/L
   40.0 %
   10.6 K/uL
        [image002.jpg]
                             [**2130-4-4**]  04:24 AM
                             [**2130-4-4**]  03:40 PM
                             [**2130-4-7**]  06:19 PM
                             [**2130-4-7**]  07:46 PM
                             [**2130-4-8**]  02:07 AM
                             [**2130-4-8**]  04:30 AM
                             [**2130-4-8**]  06:39 AM
                             [**2130-4-8**]  05:02 PM
                             [**2130-4-9**]  04:40 AM
                             [**2130-4-9**]  04:51 AM
   WBC
   11.0
   11.5
   10.3
   10.6
   Hct
   40.9
   41.6
   36.8
   40.0
   Plt
   148
   127
   126
   96
   Cr
   1.5
   1.4
   1.5
   1.4
   1.2
   1.4
   TCO2
   36
   36
   38
   37
   Glucose
   121
   145
   142
   145
   140
   140
   Other labs: PT / PTT / INR:21.8/70.6/2.0, ALT / AST:687/660, Alk Phos /
   T Bili:128/1.1, Differential-Neuts:83.5 %, Lymph:9.0 %, Mono:6.5 %,
   Eos:0.7 %, Fibrinogen:353 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.8
   g/dL, LDH:335 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ELECTROLYTE & FLUID DISORDER, OTHER
 PNEUMONIA, OTHER
 IMPAIRED SKIN INTEGRITY
   This is a 79 year old male with critical aortic stenosis awaiting AVR
   who was admitted with pneumonia and s/p 10 day course of broad spectrum
   antibiotics being transferred to the MICU with hypoxia and respiratory
   distress.
   .
   1. HYPOXIA: Likely due to mucus plugging, possible aspiration,  or +/-
   flash pulm edema in setting of tachycardia.  Required intubation as
   patient tired out.  Patient was bronched yesterday with no clear
   evidence of mucus plugging but positive for friable tissue in the
   setting of anticoagulation.  Patient now having blood tinged sputum.
   One witness aspiration event yesterday.  Due to delay to wean off
   sedation after bronch patient remained intubated overnight.
   --treat PNA with broader abx
   --careful monitoring of fluid status
   --chest PT when more stable
   --consider extubation today
   .
   2. FEVER: Temp 101.3 this am.  Pan cultured.  Continue broad spectrum
   antibiotics.
   .
   3. VOLUME STATUS/HYPOVOLEMIA: Hypovolemic in setting of overly
   aggressive diuresis.  Creatinine and hct increased overnight suggesting
   dehydration.
   --gentle fluid boluses
   --try to make even very slowly
   --avoid any additional lasix for the time being
   --use improvement in tachycardia as guide
   .
   4.TACHYCARDIA: Likely related to hypovolemia,hypoxemia and significant
   work of breathing. Also, patient has known atrial tachycardia that has
   been controlled on metoprolol TID.
   --cont current PO dose of metoprolol
   --consider diltiazem gtt if poorly controlled heart rate
   .
   5. PNA: Concern for recurrent HAP.
   --broaden with  vanc
   --repeat sputum sample
   .
   6. ?HIT: Positive HIT ab with negative SRA. Per Hematology he should
   stay on Lepirudin gtt
   --Continue  leparudin
   -- follow up hematology recs
   .
   7. Critical AS: AVR on hold given current situation and positive HIT.
   --f/u cardiac [**Doctor First Name 91**] recs (per resident, bypass machine needed for
   surgery requires use of heparin)
   --gentle fluid hydration
   --control tachycardia as per above to improve filling time
   .
   8. ARF: Likely pre-renal in setting of hypovolemia. Fluid resucitation
   as per above and f/u cr.
   --f/u cr
   --check urine lytes and osm
   --renally dose all meds
   ICU Care
   Nutrition: pending extubation today will restart po diet or tube feeds
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-4-7**] 06:00 PM
   Multi Lumen - [**2130-4-8**] 12:00 AM
   Arterial Line - [**2130-4-8**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:  mouth care, HOB > 30
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2130-04-10 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2130-4-9**] 12:22 PM
 NON-INVASIVE VENTILATION - START [**2130-4-9**] 07:25 PM
 NON-INVASIVE VENTILATION - STOP [**2130-4-9**] 11:07 PM
 INVASIVE VENTILATION - START [**2130-4-9**] 11:13 PM
 FEVER - 103.1
C - [**2130-4-9**] 09:00 PM
   -patient extubated in a.m., somnolent throughout day
   -evening- tachypnea to RR 40-50 around 6:45 p.m., ABG at 6:55
   7.38/48/62 on 50% FiO2 venti face mask- CXR w/ RML / RLL infiltrate and
   volume overload.  Patient placed on BiPAP and given 1mg IV morphine and
   20mg IV lasix, family called and came into the hospital to see the
   patient.  Temp to 103F and new bandemia.  Patient was on vanc/zosyn
   this was rotated to vanc/meropenem/cipro.  Mild hemoptysis- given
   tenuous respiratory status lepirudin discontinued.  Atrial tachycardia
   w/ rate to 130- amiodarone 150mg IV bolus given and amiodarone drip
   started.  Neosynephrine restarted for MAPs of 58, goal MAP > 65.
   Patient not improving on BiPAP, continued to be somnolent, RR continues
   to be elevated at times (40-50) and seems uncomfortable so anesthesia
   was called and the patient was reintubated around 10pm.
   -1L IVF given for lactate 3, increased to 4- additional 1L IVF given,
   ScVO2 59%.
   -atach resolved so switched to levophed this AM
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2130-4-9**] 08:00 AM
   Piperacillin - [**2130-4-9**] 06:09 PM
   Ciprofloxacin - [**2130-4-9**] 10:10 PM
   Meropenem - [**2130-4-10**] 04:00 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Propofol - 10 mcg/Kg/min
   Phenylephrine - 4 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2130-4-9**] 07:34 AM
   Fentanyl - [**2130-4-9**] 07:34 AM
   Pantoprazole (Protonix) - [**2130-4-9**] 10:30 AM
   Amiodarone - [**2130-4-9**] 09:45 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-10**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 39.5
C (103.1
   Tcurrent: 37.6
C (99.7
   HR: 71 (70 - 120) bpm
   BP: 84/50(62) {79/50(61) - 106/65(82)} mmHg
   RR: 14 (9 - 38) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
    CVP: 13 (6 - 18)mmHg
   CO/CI (Fick): (3.4 L/min) / (1.8 L/min/m2)
   Mixed Venous O2% Sat: 39 - 59
   Total In:
                                                                  2,128 mL
                                                                  2,884 mL
   PO:
   TF:
   IVF:
                                                                  2,008 mL
                                                                  2,884 mL
   Blood products:
   Total out:
                                                                  1,230 mL
                                                                    230 mL
   Urine:
                                                                  1,230 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    898 mL
                                                                  2,654 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 627 (416 - 678) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/43/192/26/3
   Ve: 7.1 L/min
   PaO2 / FiO2: 480
   Physical Examination
   Gen: Sedated, intubated
   HEENT: JVP up to 14
   Lungs: high pitched lung sounds on left anterior lung exam
   CV: SEM, erythema around R subclavian line
   Abd: soft, nontender
   Ext: pneumoboots on, WWP
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   79 K/uL
   12.8 g/dL
   185 mg/dL
   1.6 mg/dL
   26 mEq/L
   4.0 mEq/L
   37 mg/dL
   96 mEq/L
   135 mEq/L
   40.7 %
   12.2 K/uL
        [image002.jpg]
                             [**2130-4-8**]  05:02 PM
                             [**2130-4-9**]  04:40 AM
                             [**2130-4-9**]  04:51 AM
                             [**2130-4-9**]  06:55 PM
                             [**2130-4-9**]  08:13 PM
                             [**2130-4-9**]  08:26 PM
                             [**2130-4-9**]  11:08 PM
                             [**2130-4-10**]  12:27 AM
                             [**2130-4-10**]  03:58 AM
                             [**2130-4-10**]  04:10 AM
   WBC
   10.6
   12.2
   12.2
   Hct
   40.0
   42.7
   40.7
   Plt
   96
   79
   79
   Cr
   1.2
   1.4
   1.4
   1.6
   TCO2
   37
   29
   34
   35
   35
   29
   Glucose
   140
   140
   103
   185
   Other labs: PT / PTT / INR:25.5/60.3/2.5, ALT / AST:280/315, Alk Phos /
   T Bili:96/1.7, Differential-Neuts:62.0 %, Band:23.0 %, Lymph:5.0 %,
   Mono:6.0 %, Eos:3.0 %, Fibrinogen:399 mg/dL, Lactic Acid:4.4 mmol/L,
   Albumin:2.8 g/dL, LDH:352 IU/L, Ca++:7.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ELECTROLYTE & FLUID DISORDER, OTHER
 PNEUMONIA, OTHER
 IMPAIRED SKIN INTEGRITY
   This is a 79 year old male with critical aortic stenosis awaiting AVR
   who was admitted with pneumonia and s/p 10 day course of broad spectrum
   antibiotics transferred to the MICU with hypoxia and respiratory
   distress with new bandemia and high fever, with concern for new
   infection vs HIT.
   # Sepsis: the patient respiked to 103F and has a new bandemia in the
   setting of respiratory distress and likely new RML and RLL infiltrate,
   likely an aspiration pneumonia which should be treated as ventilator
   associated pneumonia.  Also could be febrile response from HIT with
   re-exposure to heparin flush. No spike in LFTs, although bili slightly
   increased. Patient also with Stage II decubitus ulcer. The patient was
   on vanc / zosyn at this time so was broadened to vanc / [**Last Name (un) **] / cipro.
   - continue broadened antibiotics
   - CT chest/abdomen with PO contrast
   - send stool for cdiff
   - LENIs and upper extremity ultrasounds
   -send ET sputum sample
   -f/u blood / urine cultures
   -monitor fever curve / WBC and bandemia
   -pressor switched to levophed from neosynephrine given resolution of
   atrial tachycardia, CVP is > 12, CVO2 is 59 but hct is already > 30 and
   given atrial tachycardia augmenting with dobutamine may be difficult
   -repeat lactate and CVO2 today
   -set up vigelo for better hemodynamic monitoring
   # Respiratory failure: Patient reintubated last night for respiratory
   distress. Also with new infiltrate consistent with VAP but could be
   diffuse alveolar hemorrhage, other abcess/fungal infection.
   - continue vanc/[**Last Name (un) **]/cipro
   - rebronch patient today with BAL
   - CT chest/abdomen today
   - continue mechanical intubation
   # ?HIT: Positive HIT ab with negative SRA. Per Hematology he should
   stay on Lepirudin gtt, need to rediscuss with heme given hemoptysis and
   hematuria.  Lepirudin had been stopped in the setting of respiratory
   compromise and hemoptysis.
   - Talk to heme regarding possibility of HIT
   - Pull current subclavian line, place new non-heparin central line
   - LENIs and upper extremity US
   - restart Lepirudin after lines changed
   .
   # atrial tachycardia: continue amiodarone gtt, triggered by hypoxia, >
   50% of time in the ICU has been in atrial tachycardia, when more stable
   convert to PO amio regimen
   .
   # Critical AS/systolic CHF: : AVR on hold given current situation and
   positive HIT.
   --f/u cardiac [**Doctor First Name 91**] recs (per resident, bypass machine needed for
   surgery requires use of heparin) and talk to cardiac surgery regarding
   possibility of valvuloplasty
   - check cardiac enzymes
   --control tachycardia as per above to improve filling time
   #. ARF: worsening cr likely related to sepsis and renal hypoperfusion.
   -trend cr and monitor UOP
   --renally dose all meds
   -recheck vanc level in a.m. [**4-11**]
   ICU Care
   Nutrition: Start tube feeds after bronchoscopy
   Glycemic Control:
   Lines:
   Multi Lumen - [**2130-4-8**] 12:00 AM
   Arterial Line - [**2130-4-8**] 01:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None), will restart lepirudin
   after procedures today
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2130-04-10 09:47:00 Physician Attending Progress Note
Chief Complaint:  Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: LUL pneumonia, critical AS
   24 Hour Events:
   Extubated in the morning with some somnolence
   In the evening, he became febrile to 103, was noted to have some mild
   hemoptysis and  hematuria.  Atrial tachycardia to 130s.  He was
   pan-cultured.  His antibiotics were changed from vanc/zosyn to
   vanc/[**Last Name (un) **]/cipro.  He was started on amiodarone for atrial tachycardia
   and returned to sinus rhythm.  He was maintained on BiPAP 12/5, with
   improvement of PaO2 but continued to be tachypneic to 40-50, and
   therefore was reintubated.  Given 1L IVF.  CVO2 59%.  was initially on
   neo but now levophed.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Piperacillin - [**2130-4-9**] 06:09 PM
   Ciprofloxacin - [**2130-4-9**] 10:10 PM
   Meropenem - [**2130-4-10**] 04:00 AM
   Vancomycin - [**2130-4-10**] 08:00 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Propofol - 10 mcg/Kg/min
   Norepinephrine - 0.18 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-4-9**] 10:30 AM
   Amiodarone - [**2130-4-9**] 09:45 PM
   Other medications:
   asa 81
   vit b12
   riss
   chlorhexadine
   lepirudin (discontinued)
   vanc 1 g q24
   pantoprazole
   lopressor 37.5 tid
   cipro 400 [**Hospital1 **]
   amiodarone gtt
   propofol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-10**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 39.5
C (103.1
   Tcurrent: 37
C (98.6
   HR: 83 (70 - 119) bpm
   BP: 96/58(72) {84/50(62) - 106/65(82)} mmHg
   RR: 14 (9 - 38) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
   CVP: 13 (10 - 18)mmHg
   CO/CI (Fick): (3.4 L/min) / (1.8 L/min/m2)
   Mixed Venous O2% Sat: 39 - 59
   Total In:
                                                                  2,128 mL
                                                                  3,258 mL
   PO:
   TF:
   IVF:
                                                                  2,008 mL
                                                                  3,258 mL
   Blood products:
   Total out:
                                                                  1,230 mL
                                                                    290 mL
   Urine:
                                                                  1,230 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    898 mL
                                                                  2,968 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 627 (559 - 678) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/40/192/26/3
   Ve: 7.4 L/min
   PaO2 / FiO2: 480
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Bronchial: LUL, Rhonchorous:
   bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Decreased
   Labs / Radiology
   12.8 g/dL
   79 K/uL
   185 mg/dL
   1.6 mg/dL
   26 mEq/L
   4.0 mEq/L
   37 mg/dL
   96 mEq/L
   135 mEq/L
   40.7 %
   12.2 K/uL
        [image002.jpg]
                             [**2130-4-9**]  04:40 AM
                             [**2130-4-9**]  04:51 AM
                             [**2130-4-9**]  06:55 PM
                             [**2130-4-9**]  08:13 PM
                             [**2130-4-9**]  08:26 PM
                             [**2130-4-9**]  11:08 PM
                             [**2130-4-10**]  12:27 AM
                             [**2130-4-10**]  03:58 AM
                             [**2130-4-10**]  04:10 AM
                             [**2130-4-10**]  09:10 AM
   WBC
   10.6
   12.2
   12.2
   Hct
   40.0
   42.7
   40.7
   Plt
   96
   79
   79
   Cr
   1.4
   1.4
   1.6
   TCO2
   37
   29
   34
   35
   35
   29
   28
   Glucose
   140
   103
   185
   Other labs: PT / PTT / INR:25.5/60.3/2.5, ALT / AST:280/315, Alk Phos /
   T Bili:96/1.7, Differential-Neuts:62.0 %, Band:23.0 %, Lymph:5.0 %,
   Mono:6.0 %, Eos:3.0 %, Fibrinogen:399 mg/dL, Lactic Acid:3.6 mmol/L,
   Albumin:2.8 g/dL, LDH:352 IU/L, Ca++:7.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   79 yo M with critical AS awaiting AVR who presented initially with
   pneumonia, now with respiratory failure and sepsis
   1. Sepsis: Fever to 103, new bandemia: ? VAP vs HIT vs occult infection
   (increased bilirubins)
    - will check RUQ
    - send cdiff culture
    - will change subclavian line (was heparin coated)
    - for ? HIT, will check cardiac enzymes, check upper and lower
   extremity doppler ultrasounds
    - repeat sputum culture from ett
    - bronchoscopy with BAL to assess for site of hemoptysis
    - repeat chest CT
    - cont vanc/[**Last Name (un) **]/cipro
    - will continue levophed for pressure support
   2. Atrial tachycardia: cont amiodarone for rate and rhythm control
   3. Volume status: appears hypervolemic, will hold off on IVF boluses
   for right now
   4. AoCRF: likely hypoperfusion in setting of sepsis
    - renally dose all medications
   5. ?HIT:
    - f.u with hematology service
    - will restart lepirudin once lines changed
    - upper and lower ext ultrasounds, cardiac enzymes
   6. Respiratory failure: progression of infiltrates on cxr in setting of
   volume, hematemesis and s/sx infection, most likely [**2-7**] hematemesis
    - will repeat bronchoscopy today
    - vanc/[**Last Name (un) **]/cipro for possible vap
    - aim for tbb even given ongoing sepsis
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2130-4-8**] 12:00 AM
   Arterial Line - [**2130-4-8**] 01:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2130-04-11 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2130-4-10**] 10:19 AM
 BRONCHOSCOPY - At [**2130-4-10**] 12:00 PM
 MULTI LUMEN - START [**2130-4-10**] 01:56 PM
 MULTI LUMEN - STOP [**2130-4-10**] 04:06 PM
   bronch done, showed friable mucosa, not many secretions, BAL sent, - GS
   CVL re-sited
   CT torso with worsened multifocal PNA and increased right pleural
   effusion
   levophed weaned down
   had plug with brief desaturation
   hematology did not come by- over phone said highly unlikely to have HIT
   LENI upper and lower negative
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Piperacillin - [**2130-4-9**] 06:09 PM
   Vancomycin - [**2130-4-10**] 08:00 AM
   Ciprofloxacin - [**2130-4-10**] 10:32 PM
   Meropenem - [**2130-4-11**] 02:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-4-10**] 09:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-11**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37.2
C (99
   HR: 96 (83 - 100) bpm
   BP: 100/53(70) {86/51(64) - 107/65(80)} mmHg
   RR: 14 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
    CVP: 8 (5 - 13)mmHg
   Total In:
                                                                  5,515 mL
                                                                    312 mL
   PO:
   TF:
   IVF:
                                                                  4,615 mL
                                                                    312 mL
   Blood products:
   Total out:
                                                                  1,040 mL
                                                                    440 mL
   Urine:
                                                                  1,040 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,475 mL
                                                                   -128 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 273
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.53/38/158//9
   Ve: 7.2 L/min
   PaO2 / FiO2: 395
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   84 K/uL
   12.2 g/dL
   185 mg/dL
   1.6 mg/dL
   26 mEq/L
   4.0 mEq/L
   37 mg/dL
   96 mEq/L
   135 mEq/L
   37.2 %
   9.5 K/uL
        [image002.jpg]
                             [**2130-4-9**]  06:55 PM
                             [**2130-4-9**]  08:13 PM
                             [**2130-4-9**]  08:26 PM
                             [**2130-4-9**]  11:08 PM
                             [**2130-4-10**]  12:27 AM
                             [**2130-4-10**]  03:58 AM
                             [**2130-4-10**]  04:10 AM
                             [**2130-4-10**]  09:10 AM
                             [**2130-4-11**]  05:59 AM
                             [**2130-4-11**]  06:25 AM
   WBC
   12.2
   12.2
   9.5
   Hct
   42.7
   40.7
   37.2
   Plt
   79
   79
   84
   Cr
   1.4
   1.6
   TropT
   0.05
   TCO2
   29
   34
   35
   35
   29
   28
   33
   Glucose
   103
   185
   Other labs: PT / PTT / INR:18.6/46.8/1.7, CK / CKMB /
   Troponin-T:33/1/0.05, ALT / AST:280/315, Alk Phos / T Bili:96/1.7,
   Differential-Neuts:62.0 %, Band:23.0 %, Lymph:5.0 %, Mono:6.0 %,
   Eos:3.0 %, Fibrinogen:399 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.8
   g/dL, LDH:352 IU/L, Ca++:7.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 TACHYCARDIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ELECTROLYTE & FLUID DISORDER, OTHER
 PNEUMONIA, OTHER
 IMPAIRED SKIN INTEGRITY
   This is a 79 year old male with critical aortic stenosis awaiting AVR
   who was admitted with pneumonia and s/p 10 day course of broad spectrum
   antibiotics transferred to the MICU with hypoxia and respiratory
   distress with new bandemia and high fever, with concern for new
   infection vs HIT.
   # Sepsis: the patient respiked to 103F and has a new bandemia in the
   setting of respiratory distress and likely new RML and RLL infiltrate,
   likely an aspiration pneumonia which should be treated as ventilator
   associated pneumonia.  Also could be febrile response from HIT with
   re-exposure to heparin flush. No spike in LFTs, although bili slightly
   increased. Patient also with Stage II decubitus ulcer. The patient was
   on vanc / zosyn at this time so was broadened to vanc / [**Last Name (un) **] / cipro.
   - continue broadened antibiotics
   - CT chest/abdomen done yesterday showed worsening multifocal PNA and
   larger right pleural effusion, tap right effusion if difficulty weaning
   from vent
   - send stool for cdiff, pending
   -f/u blood / urine cultures
   -monitor fever curve / WBC and bandemia=
   -pressor switched to levophed from neosynephrine given resolution of
   atrial tachycardia, CVP is > 12, CVO2 is 59 but hct is already > 30 and
   given atrial tachycardia augmenting with dobutamine may be difficult,
   continue to wean off levophed
   -set up vigelo for better hemodynamic monitoring
   # Respiratory failure: Patient reintubated last night for respiratory
   distress. Also with new infiltrate consistent with VAP but could be
   diffuse alveolar hemorrhage, other abcess/fungal infection.
   - continue vanc/[**Last Name (un) **]/cipro
   - rebronched yesterday with BAL sent, f/u cx data, nothing growing to
   guide abx thus far
   - continue mechanical intubation
   # ?HIT: Positive HIT ab with negative SRA. Per Hematology he should
   stay on Lepirudin gtt, need to rediscuss with heme given hemoptysis and
   hematuria.  Lepirudin had been stopped in the setting of respiratory
   compromise and hemoptysis.
   - Talk to heme regarding possibility of HIT, they will see him today
   - LENIs and upper extremity US were negative for DVT
   -holding Lepirudin
   .
   # atrial tachycardia: continue amiodarone gtt, triggered by hypoxia, >
   50% of time in the ICU has been in atrial tachycardia, when more stable
   convert to PO amio regimen
   .
   # Critical AS/systolic CHF: : AVR on hold given current situation and
   positive HIT.
   --f/u cardiac [**Doctor First Name 91**] recs (per resident, bypass machine needed for
   surgery requires use of heparin) and talk to cardiac surgery regarding
   possibility of valvuloplasty
   - check cardiac enzymes
   --control tachycardia as per above to improve filling time
   #. ARF: worsening cr likely related to sepsis and renal hypoperfusion.
   -trend cr and monitor UOP
   --renally dose all meds
   -recheck vanc level in a.m. [**4-11**]
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-4-8**] 01:00 AM
   Multi Lumen - [**2130-4-10**] 01:56 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2130-04-11 10:15:00 Physician Attending Progress Note
Chief Complaint:  respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: LUL/ LLL pneumonia, respiratory failure, critical AS
   24 Hour Events:
   bronchoscopy with evidence of hemorrhagic pneumonia on L
   Chest CT with increased r-sided pleural effusion, progression of L
   sided pneumonia
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Piperacillin - [**2130-4-9**] 06:09 PM
   Ciprofloxacin - [**2130-4-10**] 10:32 PM
   Meropenem - [**2130-4-11**] 02:00 AM
   Vancomycin - [**2130-4-11**] 09:11 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-4-10**] 09:56 AM
   Morphine Sulfate - [**2130-4-11**] 07:56 AM
   Other medications:
   mvi
   allopurinol
   asa
   vit b12
   riss
   chlorhexadine
   vanc 1g q 24
   pantoprazole 40
   lopressor 37.5 tid
   cipro 400 [**Hospital1 **]
   meropenem 500 q 8hr
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-11**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 97 (83 - 120) bpm
   BP: 90/52(67) {86/51(64) - 107/65(80)} mmHg
   RR: 14 (14 - 21) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
   CVP: 8 (5 - 13)mmHg
   Total In:
                                                                  5,515 mL
                                                                    585 mL
   PO:
   TF:
   IVF:
                                                                  4,615 mL
                                                                    585 mL
   Blood products:
   Total out:
                                                                  1,040 mL
                                                                    540 mL
   Urine:
                                                                  1,040 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,475 mL
                                                                     45 mL
   Respiratory support
   O2 Delivery Device: Venti mask , Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 273
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.53/38/158/30/9
   Ve: 6.2 L/min
   PaO2 / FiO2: 395
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal, Fixed)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: Right, Rhonchorous: L
   sided)
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.2 g/dL
   84 K/uL
   114 mg/dL
   1.2 mg/dL
   30 mEq/L
   3.7 mEq/L
   31 mg/dL
   94 mEq/L
   131 mEq/L
   37.2 %
   9.5 K/uL
        [image002.jpg]
                             [**2130-4-9**]  06:55 PM
                             [**2130-4-9**]  08:13 PM
                             [**2130-4-9**]  08:26 PM
                             [**2130-4-9**]  11:08 PM
                             [**2130-4-10**]  12:27 AM
                             [**2130-4-10**]  03:58 AM
                             [**2130-4-10**]  04:10 AM
                             [**2130-4-10**]  09:10 AM
                             [**2130-4-11**]  05:59 AM
                             [**2130-4-11**]  06:25 AM
   WBC
   12.2
   12.2
   9.5
   Hct
   42.7
   40.7
   37.2
   Plt
   79
   79
   84
   Cr
   1.4
   1.6
   1.2
   TropT
   0.05
   TCO2
   29
   34
   35
   35
   29
   28
   33
   Glucose
   103
   185
   114
   Other labs: PT / PTT / INR:18.6/46.8/1.7, CK / CKMB /
   Troponin-T:33/1/0.05, ALT / AST:280/315, Alk Phos / T Bili:96/1.7,
   Differential-Neuts:62.0 %, Band:23.0 %, Lymph:5.0 %, Mono:6.0 %,
   Eos:3.0 %, Fibrinogen:399 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.8
   g/dL, LDH:352 IU/L, Ca++:7.3 mg/dL, Mg++:1.8 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   79 yo M critical AS, persistent R-sided pneumonia, ? HIT, now with
   hemodynamic collapse c/w sepsis
   1. Sepsis: progression of pneumonia vs occult infection
    - ct abdomen wnl
    - chest CT with progression of L-sided pneumonia
    - blood, urine, sputum cultures pending
    - will continue blood pressure support (pt with similar response to
   both neosynephrine and levophed)
    - he appears euvolemic and will therefore aim for TBB even for right
   now, IVF bolus if necessary
   2. Respiratory failure: VAP and effusion
    - will hold off on tapping effusion as this is likely not effecting
   overall respiratory status
    - continues to have hematemesis
    - will give Vit K, hold off on DIC
   3. Atrial tachycardia:
    - cont PO amiodarone to slow heart rate
   4. Critical AS:
    - will touch base with CV [**Doctor First Name 91**] regarding possibility of valvuloplasty
   as bridge towards eventual surgery when stable
   5. Coagulopathy:
    - ? dic vs nutrition vs lepirudin effects
    - vit K
    - continue to f/u with hematology regarding possibility of HIT but
   appears to be low likelihood, and therefore holding lepirudiin
   especially in setting of ongoing bleed/ooze
   6. Nutrition: will start tube feeds today
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-4-8**] 01:00 AM
   Multi Lumen - [**2130-4-10**] 01:56 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2130-04-12 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.1
F - [**2130-4-11**] 07:00 AM
   - Heme recommended to resend PF4 test, if low/only mildly elevated,
   patient may be able to still receive short course of heparin during
   valve procedure, no full note in chart
   - CT [**Doctor First Name 91**] aware of heme recs, will hold on any procedure until
   infection/respiratory status more stabilized
   - Patient switched to PO amiodarone
   - Given 250ml bolus for decreased UOP around 1:30pm on [**4-11**]
   - Started on tube feeds
   - Lactate 1.7 -> 2.1 -> 1.7
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Piperacillin - [**2130-4-9**] 06:09 PM
   Vancomycin - [**2130-4-11**] 12:40 PM
   Ciprofloxacin - [**2130-4-11**] 10:00 PM
   Meropenem - [**2130-4-12**] 02:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Norepinephrine - 0.19 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2130-4-11**] 02:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-12**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 107 (80 - 126) bpm
   BP: 82/56(65) {82/49(63) - 100/57(291)} mmHg
   RR: 18 (14 - 18) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
    CVP: 12 (8 - 15)mmHg
   Total In:
                                                                  2,272 mL
                                                                    682 mL
   PO:
                                                                     60 mL
   TF:
                                                                     60 mL
                                                                    159 mL
   IVF:
                                                                  2,092 mL
                                                                    423 mL
   Blood products:
   Total out:
                                                                  1,260 mL
                                                                    310 mL
   Urine:
                                                                  1,260 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,012 mL
                                                                    372 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   SpO2: 99%
   ABG: 7.49/41/151/29/8
   Ve: 7.5 L/min
   PaO2 / FiO2: 377
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   89 K/uL
   12.7 g/dL
   136 mg/dL
   1.2 mg/dL
   29 mEq/L
   4.4 mEq/L
   30 mg/dL
   95 mEq/L
   131 mEq/L
   38.5 %
   10.8 K/uL
        [image002.jpg]
                             [**2130-4-10**]  12:27 AM
                             [**2130-4-10**]  03:58 AM
                             [**2130-4-10**]  04:10 AM
                             [**2130-4-10**]  09:10 AM
                             [**2130-4-11**]  05:59 AM
                             [**2130-4-11**]  06:25 AM
                             [**2130-4-11**]  05:58 PM
                             [**2130-4-11**]  06:02 PM
                             [**2130-4-12**]  04:55 AM
                             [**2130-4-12**]  05:04 AM
   WBC
   12.2
   9.5
   10.2
   10.8
   Hct
   40.7
   37.2
   37.0
   38.5
   Plt
   79
   84
   83
   89
   Cr
   1.6
   1.2
   1.2
   1.2
   TropT
   0.05
   TCO2
   35
   29
   28
   33
   32
   Glucose
   185
   114
   130
   136
   Other labs: PT / PTT / INR:16.5/42.4/1.5, CK / CKMB /
   Troponin-T:33/1/0.05, ALT / AST:280/315, Alk Phos / T Bili:96/1.7,
   Differential-Neuts:62.0 %, Band:23.0 %, Lymph:5.0 %, Mono:6.0 %,
   Eos:3.0 %, Fibrinogen:399 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.8
   g/dL, LDH:352 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 TACHYCARDIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ELECTROLYTE & FLUID DISORDER, OTHER
 PNEUMONIA, OTHER
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2130-4-11**] 08:00 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2130-4-8**] 01:00 AM
   Multi Lumen - [**2130-4-10**] 01:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-04-13 09:51:00 Physician Attending Progress Note
Chief Complaint:  respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79 YO M critical AS who presented with pneumonia/septic shock while
   awaiting AVR repair
   24 Hour Events:
   PF4 returned + at 0.59 but weakly positive and therefore may not
   represent HITT
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Ciprofloxacin - [**2130-4-12**] 10:00 PM
   Meropenem - [**2130-4-13**] 02:00 AM
   Vancomycin - [**2130-4-13**] 09:01 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Propofol - 5 mcg/Kg/min
   Norepinephrine - 0.19 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2130-4-12**] 01:45 PM
   Other medications:
   b12
   asa
   allopurinol
   riss
   mvi
   chlorhexadine
   pantoprazole
   levophed
   cipro 400 [**Hospital1 **]
   propofol
   meropenem
   amiodarone
   vanc 750 [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-13**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.1
   HR: 97 (82 - 123) bpm
   BP: 101/61(77) {82/53(66) - 109/84(89)} mmHg
   RR: 15 (15 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
   CVP: 6 (6 - 13)mmHg
   Total In:
                                                                  3,172 mL
                                                                  1,089 mL
   PO:
   TF:
                                                                    851 mL
                                                                    428 mL
   IVF:
                                                                  1,871 mL
                                                                    662 mL
   Blood products:
   Total out:
                                                                  2,180 mL
                                                                  1,570 mL
   Urine:
                                                                  2,180 mL
                                                                  1,570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    992 mL
                                                                   -481 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 7 cmH2O
   FiO2: 40%
   RSBI: 166
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.8 cmH2O/mL
   SpO2: 100%
   ABG: ///30/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: ETT
   Cardiovascular: (S1: Normal), (S2: Normal, Distant), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Bronchial: Right)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Non -purposeful,
   Sedated, Tone: Decreased
   Labs / Radiology
   13.2 g/dL
   82 K/uL
   182 mg/dL
   1.2 mg/dL
   30 mEq/L
   3.6 mEq/L
   32 mg/dL
   94 mEq/L
   131 mEq/L
   39.0 %
   15.7 K/uL
        [image002.jpg]
                             [**2130-4-10**]  03:58 AM
                             [**2130-4-10**]  04:10 AM
                             [**2130-4-10**]  09:10 AM
                             [**2130-4-11**]  05:59 AM
                             [**2130-4-11**]  06:25 AM
                             [**2130-4-11**]  05:58 PM
                             [**2130-4-11**]  06:02 PM
                             [**2130-4-12**]  04:55 AM
                             [**2130-4-12**]  05:04 AM
                             [**2130-4-13**]  04:07 AM
   WBC
   12.2
   9.5
   10.2
   10.8
   15.7
   Hct
   40.7
   37.2
   37.0
   38.5
   39.0
   Plt
   79
   84
   83
   89
   82
   Cr
   1.6
   1.2
   1.2
   1.2
   1.2
   TropT
   0.05
   TCO2
   29
   28
   33
   32
   Glucose
   185
   114
   130
   136
   182
   Other labs: PT / PTT / INR:16.3/39.2/1.4, CK / CKMB /
   Troponin-T:33/1/0.05, ALT / AST:277/267, Alk Phos / T Bili:114/1.7,
   Differential-Neuts:62.0 %, Band:23.0 %, Lymph:5.0 %, Mono:6.0 %,
   Eos:3.0 %, Fibrinogen:399 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.0
   g/dL, LDH:352 IU/L, Ca++:7.0 mg/dL, Mg++:1.6 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   79 YO M critical AS who presented with pneumonia/septic shock while
   awaiting AVR repair, hospital course complicated by aspiration
   pneumonia and possible HITT.
   1. Respiratory failure: likely [**2-7**] hemorrhagic pneumonia.  He has a R
   sided pleural effusion but this does not appear to be impacting his
   respiratory status
     - day [**5-15**] cipro/[**Last Name (un) **], 7 vanc
    - repeat bronch with BAL today
   [**Month (only) 8**] need thoracentesis if he cannot transition to CPAP in next 48 hrs
   2. New WBC with low-grade temp:
    - reculture blood, urine, sputum (bal) and stool for C Diff
    - has posterior wound, will have wound care evaluate
   3. HoTN: likely [**2-7**] SIRS/sepsis on top of poor cardiac output related
   to critical AS, MR, TR
    - cont levophed for bp support with MAP > 65
    - continue diuresis as tolerated aim -50-100cc/hr
   4. Atrial tachycardia:
    - cont amiodarone, holding lopressor
    - close monitoring volume status
   5. ? HIT:
    - holding lepirudin
    - repeat PF4 low likelihood positive
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2130-4-13**] 01:58 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2130-4-10**] 01:56 PM
   Arterial Line - [**2130-4-13**] 02:47 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2130-04-14 11:22:00 Physician Attending Progress Note
Chief Complaint:  LUL pneumonia, respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79 yo M critical AS, moderate MR, TR, awaiting AVR, who presented with
   pneumonia and now respiratory failure.
   24 Hour Events:
   Bronchocopy [**4-13**] with minimal frothy secretions, no mucus, no hemoptysis
   Trialed PSV with tachypnea
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2130-4-14**] 08:00 AM
   Meropenem - [**2130-4-14**] 10:00 AM
   Ciprofloxacin - [**2130-4-14**] 10:30 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-4-14**] 08:00 AM
   Other medications:
   neutraphos
   b12
   asa
   allopurinol
   mvi
   chlorhexadine
   cipro
   amiodarone
   vanc 750 [**Hospital1 **]
   [**Last Name (un) **] 500 q 6
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-14**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 117 (93 - 118) bpm
   BP: 93/62(75) {90/53(67) - 115/73(89)} mmHg
   RR: 21 (15 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
   CVP: 28 (3 - 28)mmHg
   Total In:
                                                                  2,950 mL
                                                                  1,564 mL
   PO:
   TF:
                                                                    765 mL
                                                                    487 mL
   IVF:
                                                                  2,055 mL
                                                                    857 mL
   Blood products:
   Total out:
                                                                  3,520 mL
                                                                    805 mL
   Urine:
                                                                  3,520 mL
                                                                    805 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -570 mL
                                                                    759 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 357 (349 - 410) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 7 cmH2O
   FiO2: 40%
   RSBI: 226
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 96%
   ABG: 7.50/37/92.[**Numeric Identifier 491**]/32/4
   Ve: 8.7 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: Thin, Anxious
   Head, Ears, Nose, Throat: Poor dentition, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Bronchial: L,
   Diminished: R), pleural rub LUL
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Non -purposeful,
   Tone: Decreased
   Labs / Radiology
   11.7 g/dL
   75 K/uL
   160 mg/dL
   1.1 mg/dL
   32 mEq/L
   4.0 mEq/L
   29 mg/dL
   91 mEq/L
   129 mEq/L
   35.6 %
   16.0 K/uL
        [image002.jpg]
                             [**2130-4-11**]  06:25 AM
                             [**2130-4-11**]  05:58 PM
                             [**2130-4-11**]  06:02 PM
                             [**2130-4-12**]  04:55 AM
                             [**2130-4-12**]  05:04 AM
                             [**2130-4-13**]  04:07 AM
                             [**2130-4-13**]  06:54 PM
                             [**2130-4-13**]  07:11 PM
                             [**2130-4-14**]  01:49 AM
                             [**2130-4-14**]  08:47 AM
   WBC
   10.2
   10.8
   15.7
   17.1
   16.0
   Hct
   37.0
   38.5
   39.0
   37.6
   35.6
   Plt
   83
   89
   82
   62
   75
   Cr
   1.2
   1.2
   1.2
   1.1
   1.1
   TCO2
   33
   32
   37
   30
   Glucose
   130
   136
   182
   158
   160
   Other labs: PT / PTT / INR:16.1/37.3/1.4, CK / CKMB /
   Troponin-T:33/1/0.05, ALT / AST:182/125, Alk Phos / T Bili:109/1.8,
   Differential-Neuts:71.8 %, Band:7.0 %, Lymph:16.6 %, Mono:6.7 %,
   Eos:3.9 %, Fibrinogen:399 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.0
   g/dL, LDH:352 IU/L, Ca++:6.9 mg/dL, Mg++:2.0 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   1. Respiratory failure: HAPvs aspiration PNA on L with large R sided
   pleural effusion, todays cxr with collapse lml but no obvious
   secretions
    - cont vanc [**8-15**], [**Last Name (un) **] [**6-15**], Cipro [**6-15**]
    - tap R sided pleural effusion to improve TLC, ability to tolerate
   CPAP
   2. Leukocytosis: ? decbitus ulcer, pulmonary process, cdif (less likley
   in absence of diarrhea)
    - cont f/u cultures
    - cont abx
    -LFTS abnormal. Will check USG of RUQ. GI/ Hepatology input if no
   evidence for cholesystitis ( acalculous)
   3. HoTN: critical AS with EF 20%, CVP > 12, appears overall volume
   overloaded, compounded by tachycardia
    - will restart amio gtt for hr control
    - cont lasix gtt aim gentle diuresis (-25 to -50cc/hr)
    - increase levophed as necessary
    - repeat TTE if continued hemodynamic instability
    - cont trend q 8 hr lactate, CVO2
   4. HIT: appreciate hematology input, likely NOT HIT.
   5. FEN:
    - tube feeds
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2130-4-14**] 07:09 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2130-4-10**] 01:56 PM
   Arterial Line - [**2130-4-13**] 02:47 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2130-04-15 09:06:00 Physician Attending Progress Note
Chief Complaint: Hypotension, Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hx critical AS, admitted with PNA, hypotension as outline in previous
   notes.
   24 Hour Events:
   Remains intubated, mechanically ventilated.
 ULTRASOUND - At [**2130-4-14**] 02:30 PM
   abd and renal US.
 BLOOD CULTURED - At [**2130-4-14**] 05:00 PM
 EKG - At [**2130-4-15**] 06:32 AM
 FEVER - 101.5
F - [**2130-4-14**] 06:00 PM
   Thoracentesis yesterday
   Levophed changed to neosinephrine due to  tachycardia
   History obtained from Medical records
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2130-4-14**] 08:00 PM
   Ciprofloxacin - [**2130-4-14**] 11:00 PM
   Meropenem - [**2130-4-15**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Phenylephrine - 2.8 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2130-4-14**] 04:55 PM
   Metoprolol - [**2130-4-14**] 06:25 PM
   Fentanyl - [**2130-4-15**] 07:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Endocrine: Hyperglycemia
   Flowsheet Data as of  [**2130-4-15**] 09:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.1
C (98.8
   HR: 92 (84 - 121) bpm
   BP: 83/50(63) {78/46(59) - 103/66(80)} mmHg
   RR: 20 (15 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
   CVP: 11 (5 - 16)mmHg
   Mixed Venous O2% Sat: 65 - 65
   Total In:
                                                                  3,315 mL
                                                                    865 mL
   PO:
   TF:
                                                                    990 mL
                                                                    376 mL
   IVF:
                                                                  1,936 mL
                                                                    489 mL
   Blood products:
   Total out:
                                                                  2,658 mL
                                                                    350 mL
   Urine:
                                                                  1,258 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
                                                                  1,400 mL
   Balance:
                                                                    657 mL
                                                                    515 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 95%
   ABG: 7.44/48/101/28/6
   Ve: 10.2 L/min
   PaO2 / FiO2: 253
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), extremities cool
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.0 g/dL
   92 K/uL
   192 mg/dL
   1.2 mg/dL
   28 mEq/L
   4.4 mEq/L
   35 mg/dL
   94 mEq/L
   129 mEq/L
   36.5 %
   19.6 K/uL
        [image002.jpg]
                             [**2130-4-12**]  05:04 AM
                             [**2130-4-13**]  04:07 AM
                             [**2130-4-13**]  06:54 PM
                             [**2130-4-13**]  07:11 PM
                             [**2130-4-14**]  01:49 AM
                             [**2130-4-14**]  08:47 AM
                             [**2130-4-14**]  04:19 PM
                             [**2130-4-14**]  07:47 PM
                             [**2130-4-15**]  03:54 AM
                             [**2130-4-15**]  04:45 AM
   WBC
   15.7
   17.1
   16.0
   23.3
   19.6
   Hct
   39.0
   37.6
   35.6
   37.6
   36.5
   Plt
   82
   62
   75
   98
   92
   Cr
   1.2
   1.1
   1.1
   1.2
   1.2
   TropT
   0.02
   TCO2
   32
   37
   30
   34
   Glucose
   182
   158
   160
   158
   192
   Other labs: PT / PTT / INR:17.0/37.9/1.5, CK / CKMB /
   Troponin-T:33/1/0.02, ALT / AST:133/113, Alk Phos / T Bili:131/2.3,
   Amylase / Lipase:68/57, Differential-Neuts:71.8 %, Band:7.0 %,
   Lymph:16.6 %, Mono:6.7 %, Eos:3.9 %, Fibrinogen:399 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:1.7 g/dL, LDH:395 IU/L, Ca++:6.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Please see resident note for full details. Briefly, 79 y/o man with
   critical AS, pneumonia, with persistent hypotension and respiratory
   failure.
   Briefly, would add/emphasize:
   RESPIRATORY FAILURE
 multifactorial, with contributions of dense
   necrotizing LLL pneumonia, and CHF (aortic valve disease).  Plan
   continue mechanical ventilation, monitor SaO2.  No immediate plans for
   SBT, but hope to move to SBT and exbutation trial as pneumonia
   resolves.
   HYPOTENSION
  multifactorisl; difficult situation with low LV EF,
   likely low SVR, and critical aortic stenosis.  Tachycardia on levophed
 now on neosinephrine.  Would be very cautious with diuresis given
   that oxygenation is fairly stable. Changed to Propofol to
   Versed/Fentanyl, d/c b-blocker.
   FEVER
 with leukocytosis, likely attributable to dense LLL pneumonia.
   LENI's negative this week, CXR improving, pleural effusion
   transudative.  Cultures negative, including finalized blood culture so
   yeast less likely. Change central line today.
   FLUIDS
 euvolemia, but tenuous.  Aim to keep net even today.
   HIT - testing not conclusive, off heparin. Hematology consult service
   following.
   AORTIC STENOSIS
 critical .  Requires surgical repair, but on hold
   with active extensive lung infection.
   NUTRITIONAL SUPPORT
 TF.
   Further details as per resident note.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2130-4-15**] 07:21 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2130-4-10**] 01:56 PM
   Arterial Line - [**2130-4-13**] 02:47 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2130-04-16 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   changed back to levophed
   placed new LIJ
   poor L sided aeration -- increased PEEP
   sent off fungal markers
   ruq u/s with gb wallthickening, but nonspecific - per liver, okay to
   hold on hida/perc chole pending furhter clinical change
   *** family meeting setup for monday [**4-17**] at 3pm
   reconsulted wound care rn given concern for sacral decub worsening
   fluid boluses - though to be intravascularly dried out (small IJ,
   rising bicarb)
   Patient unable to provide history: Sedated
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2130-4-15**] 08:00 PM
   Ciprofloxacin - [**2130-4-15**] 10:45 PM
   Meropenem - [**2130-4-16**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Norepinephrine - 0.18 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2130-4-16**] 12:00 AM
   Fentanyl - [**2130-4-16**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-16**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.3
   HR: 95 (84 - 119) bpm
   BP: 90/52(66) {78/45(58) - 91/57(69)} mmHg
   RR: 20 (7 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
    CVP: 12 (6 - 20)mmHg
   Total In:
                                                                  4,496 mL
                                                                  1,189 mL
   PO:
   TF:
                                                                  1,035 mL
                                                                    313 mL
   IVF:
                                                                  3,311 mL
                                                                    876 mL
   Blood products:
   Total out:
                                                                    875 mL
                                                                    305 mL
   Urine:
                                                                    875 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,621 mL
                                                                    884 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 12 cmH2O
   FiO2: 50%
   PIP: 17 cmH2O
   Plateau: 24 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.41/58/128/29/10
   Ve: 6.8 L/min
   PaO2 / FiO2: 256
   Physical Examination
   General No acute distress
   HEENT Anicteric, PEARL
   Neck RIJ in place
   CV regular S1 S2 II/VI apical murmur
   Lungs L>R rales
   Abd soft nontender +bowel sounds
   Back +sacral decub
   Extrem anasarca, cool extremities
   Squeezes hands to command when sedation is lightened
   Labs / Radiology
   88 K/uL
   11.2 g/dL
   200 mg/dL
   1.3 mg/dL
   29 mEq/L
   4.5 mEq/L
   37 mg/dL
   93 mEq/L
   128 mEq/L
   34.0 %
   15.1 K/uL
        [image002.jpg]
                             [**2130-4-14**]  04:19 PM
                             [**2130-4-14**]  07:47 PM
                             [**2130-4-15**]  03:54 AM
                             [**2130-4-15**]  04:45 AM
                             [**2130-4-15**]  10:54 AM
                             [**2130-4-15**]  01:46 PM
                             [**2130-4-15**]  04:13 PM
                             [**2130-4-15**]  05:15 PM
                             [**2130-4-16**]  02:49 AM
                             [**2130-4-16**]  03:11 AM
   WBC
   23.3
   19.6
   15.1
   Hct
   37.6
   36.5
   34.0
   Plt
   98
   92
   88
   Cr
   1.2
   1.2
   1.3
   1.3
   TropT
   0.02
   TCO2
   34
   35
   35
   34
   38
   Glucose
   158
   192
   112
   200
   Other labs: PT / PTT / INR:17.4/38.5/1.6, CK / CKMB /
   Troponin-T:33/1/0.02, ALT / AST:97/95, Alk Phos / T Bili:107/3.1,
   Amylase / Lipase:68/57, Differential-Neuts:71.8 %, Band:7.0 %,
   Lymph:16.6 %, Mono:6.7 %, Eos:3.9 %, Fibrinogen:399 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:1.7 g/dL, LDH:395 IU/L, Ca++:6.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Micro
   [**4-15**] sputum >25 polys <10 epis, 1+ yeast, cx pending
   [**4-15**] catheter tip cx pending
   Remaining cultures negative/pending except for yeast from sputum, urine
   CXR L>R opacites as before
 perhaps more dense R base, more
   obscuration of L heart border. LIJ and ETT in good position
   Assessment and Plan
   79 yo M with critical aortic stenosis awaiting AVR who was admitted
   with pneumonia, hypoxia and respiratory distress. Being treated for
   VAP/aspiration PNA.
   #Leukocytosis
   WBC now trending down.  Have been targeting suspected L sided
   pneumonia. Another source may be his sacral decub and potential osteo.
   RUQ u/s equivocal for cholescystitis, but pt appears to be improving
   with medical management. No new micro data
 only yeast from sputum,
   urine.
   - continue meropenem d8,  vanc d10. will dc cipro and consider stopping
   [**Last Name (un) **] tomorrow.
   - wound care eval of decub
 if progressing consider debridement
   - CIS, f/u micro and fungal markers
   - hold on HIDA scan for now, though would consider if LFTs trending up,
   leukocytosis, abdominal tenderness for example
   .
   # Hypotension: DDX septic vs cardiogenic in etiology.  Yesterday
   appeared intravascularly dry based on small IJ, elevated bicarb. BP
   improved improved with IVF yesterday, legs warmer c/w improved
   perfusion.
   - Continue levophed, wean as tolerated
   - Would give additional fluid boluses as need to keep CVPs >10
   - Volume goal net even today
   - Follow urine output, MAPS goal >65
   - repeat central venous O2 and lactate
   - consider adrenal insufficiency w/u, though team preferring to hold on
   this today
   # Respiratory failure:  Still intubated on A/C. Likely cause is HAP/
   aspiration PNA. Patient has a left sided PNA and pleural effusion (
   mostly right side).  Patient with derecruitment yesterday following
   line placement, better with increased PEEP
   - wean PEEP as tolerated
   - holding on diuresis (see above)
   - pneumonia treatment as above
   .
   # Critical AS/systolic CHF:
   AVR had been on hold given infection and question of HIT
   - per  heme, ok to use heparin if needed to in cards procedure as [**Male First Name (un) **]
   feel true HIT
   - f/up any cards surgery recs
   - control tachycardia as per above to improve filling time
   # thrombocytopenias:  Heme following and after [**Doctor First Name 1021**] x2 positive but
   serotonin lab f/up negative, felt that overall unlikely true HIT
   was significantly lower on 2^nd PF4 assay
   - cont to trend, recently ~stable
   - likely ok to use in cardiac surgery
   # atrial tachycardia:
   Likely exacerbated by pressors, infection, and some degree of volume
   depletion
   - continue amio
   - try to wean levophed as possible
   # hyponatremia
   Total body volume overloaded, suspect intravascularly ~euvolemic at
   this point
   - continue to trend, limit free h20
   # Coagulapathy: PT , PTT and INR all better now so DIC picture less
   likely.  Likley from
   Medications vs.  poor nutrition. INR mildly improved after vitamin K.
   - hold on FFP for now.
   - cont trend daily
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2130-4-16**] 06:05 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2130-4-13**] 02:47 AM
   Multi Lumen - [**2130-4-15**] 12:58 PM
   Prophylaxis:
   DVT: ppi
   Stress ulcer: boots
   VAP:  mouthcare, wakeups, head of bed elevation
   Communication:  with family
   Code status: Full code --- family meeting Monday 3pm
   Disposition: ICU

2130-04-16 10:40:00 Physician Attending Progress Note
Chief Complaint: Hypotension, Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Ongoing shock and respiratory failure. Increased PEEP and fi02
   tomorrow.
   24 Hour Events:
 MULTI LUMEN - START [**2130-4-15**] 12:58 PM
 MULTI LUMEN - STOP [**2130-4-15**] 03:32 PM
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Ciprofloxacin - [**2130-4-15**] 10:45 PM
   Meropenem - [**2130-4-16**] 04:00 AM
   Vancomycin - [**2130-4-16**] 07:29 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2130-4-16**] 12:00 AM
   Fentanyl - [**2130-4-16**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No fever yesterday
   Cardiovascular: Edema
   Gastrointestinal: no abdominal pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2130-4-16**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.3
   HR: 88 (84 - 119) bpm
   BP: 84/46(60) {80/45(58) - 91/57(69)} mmHg
   RR: 18 (7 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
   CVP: 13 (9 - 20)mmHg
   Total In:
                                                                  4,496 mL
                                                                  1,626 mL
   PO:
   TF:
                                                                  1,035 mL
                                                                    451 mL
   IVF:
                                                                  3,311 mL
                                                                  1,175 mL
   Blood products:
   Total out:
                                                                    875 mL
                                                                    420 mL
   Urine:
                                                                    875 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,621 mL
                                                                  1,206 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   PIP: 23 cmH2O
   Plateau: 22 cmH2O
   Compliance: 44 cmH2O/mL
   SpO2: 98%
   ABG: 7.41/58/128/29/10
   Ve: 7.2 L/min
   PaO2 / FiO2: 256
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: No(t) Normocephalic
   Cardiovascular: (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), Extremities warm today
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds:
   Bronchial: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   11.2 g/dL
   88 K/uL
   200 mg/dL
   1.3 mg/dL
   29 mEq/L
   4.5 mEq/L
   37 mg/dL
   93 mEq/L
   128 mEq/L
   34.0 %
   15.1 K/uL
        [image002.jpg]
                             [**2130-4-14**]  04:19 PM
                             [**2130-4-14**]  07:47 PM
                             [**2130-4-15**]  03:54 AM
                             [**2130-4-15**]  04:45 AM
                             [**2130-4-15**]  10:54 AM
                             [**2130-4-15**]  01:46 PM
                             [**2130-4-15**]  04:13 PM
                             [**2130-4-15**]  05:15 PM
                             [**2130-4-16**]  02:49 AM
                             [**2130-4-16**]  03:11 AM
   WBC
   23.3
   19.6
   15.1
   Hct
   37.6
   36.5
   34.0
   Plt
   98
   92
   88
   Cr
   1.2
   1.2
   1.3
   1.3
   TropT
   0.02
   TCO2
   34
   35
   35
   34
   38
   Glucose
   158
   192
   112
   200
   Other labs: PT / PTT / INR:17.4/38.5/1.6, CK / CKMB /
   Troponin-T:33/1/0.02, ALT / AST:97/95, Alk Phos / T Bili:107/3.1,
   Amylase / Lipase:68/57, Differential-Neuts:71.8 %, Band:7.0 %,
   Lymph:16.6 %, Mono:6.7 %, Eos:3.9 %, Fibrinogen:399 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:1.7 g/dL, LDH:395 IU/L, Ca++:6.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Microbiology: Sputum culture pending, + polys
   Assessment and Plan
   79 y/o man with critical AS, necrotic pneumonia, with persistent
   hypotension and respiratory failure.
   RESPIRATORY FAILURE
   - multifactorial,   dense necrotizing LLL pneumonia, and CHF (tight
   AS).
   - Continue mechanical ventilation, monitor SaO2.
   - Still requiring PEEP 10, wean as tolerated though might be a
   challenge as PEEP likely offseting AS
   Pneumonia
   -Has had 10 days of [**Last Name (un) **] and 8 days of cipro.
   -Would add anaerobic coverage given apparent necrotizing PNA.  Even
   with cx organism, typically anaerobic organisms present and harder to
   cx.
   Hypotension
   -requiring levophed
 able to wean off neo and transition to levo.
   FEVER
afebrile since Friday
   - CVL change yesterday
   - leukocytosis trending down
   - likely secondary to necrotic pneumonia.
   AORTIC STENOSIS
 critical .  Requires surgical repair, but on hold
   with active extensive lung infection.
   FLUIDS
   - euvolemia, but tenuous.
   HIT
   -- testing not conclusive, off heparin. Hematology consult service
   following.
   For remainder of plan please see resident note.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2130-4-16**] 06:05 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-4-13**] 02:47 AM
   Multi Lumen - [**2130-4-15**] 12:58 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Plan family meeting next week
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2130-04-17 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - BP dropped overnight at 2-3am so gave back 500cc NS IVF ( after gave
   20 lasix early in night becuause he was 2.3L +)
   - Pared back cipro, now on [**Last Name (un) **]/vanco. Flagyl added for ?necrotizing
   pna.
   - Still low grade temps 100.8F
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Ciprofloxacin - [**2130-4-16**] 10:01 AM
   Vancomycin - [**2130-4-16**] 08:00 PM
   Metronidazole - [**2130-4-17**] 12:01 AM
   Meropenem - [**2130-4-17**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Norepinephrine - 0.16 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2130-4-16**] 09:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-17**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.7
C (98
   HR: 107 (87 - 118) bpm
   BP: 83/51(63) {79/46(60) - 96/55(71)} mmHg
   RR: 20 (17 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
    CVP: 12 (9 - 14)mmHg
   CO/CI (Fick): (6.2 L/min) / (3.2 L/min/m2)
   Mixed Venous O2% Sat: 68 - 68
   Total In:
                                                                  3,669 mL
                                                                  1,412 mL
   PO:
   TF:
                                                                  1,079 mL
                                                                    306 mL
   IVF:
                                                                  2,529 mL
                                                                    926 mL
   Blood products:
   Total out:
                                                                  1,207 mL
                                                                    300 mL
   Urine:
                                                                  1,207 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,462 mL
                                                                  1,112 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 12
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 96%
   ABG: 7.41/48/144/33/5
   Ve: 10 L/min
   PaO2 / FiO2: 360
   Physical Examination
   General: Intubated, appearing comfortable
   HEENT: Anicteric
   Neck: LIJ in place
   Pulm: Few rales R>L, bronchial on L
   CV: Regular S1 S2 II/VI systolic murmur
   Extrem: Anasarca palpable pulses warm
   Neuro: Opens eyes to voice, squeezes hands to commands
   L aline in place
   Labs / Radiology
   87 K/uL
   10.4 g/dL
   159 mg/dL
   1.0 mg/dL
   33 mEq/L
   4.5 mEq/L
   38 mg/dL
   98 mEq/L
   134 mEq/L
   31.2 %
   12.7 K/uL
        [image002.jpg]
                             [**2130-4-15**]  04:45 AM
                             [**2130-4-15**]  10:54 AM
                             [**2130-4-15**]  01:46 PM
                             [**2130-4-15**]  04:13 PM
                             [**2130-4-15**]  05:15 PM
                             [**2130-4-16**]  02:49 AM
                             [**2130-4-16**]  03:11 AM
                             [**2130-4-16**]  11:37 AM
                             [**2130-4-16**]  07:54 PM
                             [**2130-4-17**]  02:59 AM
   WBC
   15.1
   14.0
   12.7
   Hct
   34.0
   30.6
   31.2
   Plt
   88
   80
   87
   Cr
   1.3
   1.3
   1.1
   1.0
   TCO2
   34
   35
   35
   34
   38
   31
   Glucose
   112
   200
   166
   159
   Other labs: PT / PTT / INR:16.4/37.2/1.5, CK / CKMB /
   Troponin-T:33/1/0.02, ALT / AST:93/115, Alk Phos / T Bili:150/2.7,
   Amylase / Lipase:68/57, Differential-Neuts:71.8 %, Band:7.0 %,
   Lymph:16.6 %, Mono:6.7 %, Eos:3.9 %, Fibrinogen:399 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:1.7 g/dL, LDH:395 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.7 mg/dL
   Micro none new
   CXR rotated, L sided infiltrate as before, ET tube in good position,
   Possible more opacity on R base
   Assessment and Plan
   79 yo M with critical aortic stenosis awaiting AVR who was admitted
   with pneumonia, hypoxia and respiratory distress. Being treated for
   VAP/aspiration PNA with recent increase in leukocytosis of unknown
   etiology, which is now trending downwards.
   #Leukocytosis
   WBC now trending down.  Have been targeting suspected L sided
   pneumonia. Another source may be his sacral decub and potential osteo.
   RUQ u/s equivocal for cholescystitis, but pt appears to be improving
   with medical management. No new micro data
 only yeast from sputum,
   urine.
   - continue meropenem d10,  vanc d12
 would continue for 15d course.
   Unclear that flagyl is adding much, doubt C diff, and meropenem has
   good anaerobic coverage
   - wound care eval of decub
 will ask plastics to eval for ?debridement
   - CIS, f/u micro and fungal markers
   - hold on HIDA scan for now, though would consider if LFTs trending up,
   leukocytosis, abdominal tenderness for example
   .
   # Hypotension: DDX septic vs cardiogenic in etiology.  Appears to be
   perfusing better running CVP on higher range, which has allowed weaning
   down on pressors. CVP 15 this AM
   - Continue levophed, has been weaned down to 0.12
   - Keep CVPs 12-14
   - Volume goal net even today, follow CVP
   - Follow urine output, MAPS goal >65
   - repeat central venous O2 and lactate
   # Respiratory failure:  Still intubated on A/C. Likely cause is HAP/
   aspiration PNA. Patient has a left sided PNA and pleural effusion (
   mostly right side).  Patient with derecruitment over weekend following
   line placement, better with increased PEEP
 have now been able to come
   down on PEEP
   - wean PEEP as tolerated, aim for 8 today
   - holding on diuresis (see above)
   - pneumonia treatment as above
   .
   # Critical AS/systolic CHF:
   AVR had been on hold given infection and question of HIT
   - talk to CT [**Doctor First Name 91**] today regarding whether they will do surgery,
   criteria for this. Will want these recs prior to meeting
   - per  heme, ok to use heparin if needed to in cards procedure as [**Male First Name (un) **]
   feel true HIT
   - f/up any cards surgery recs
   - control tachycardia as per above to improve filling time
   # transaminitis
   Suspect shock liver, LFTs are perfusing. GB wall thickening on US
   nonspecific.
   - continue to trend
   - liver recs appreciated
   # thrombocytopenias:  Heme following and after [**Doctor First Name 1021**] x2 positive but
   serotonin lab f/up negative, felt that overall unlikely true HIT
   was significantly lower on 2^nd PF4 assay
   Recently stable
   - need heme final note in chart regarding use of heparin in surgery
   - cont to trend, recently ~stable
   - likely ok to use in cardiac surgery
   # atrial tachycardia:
   Likely exacerbated by pressors, infection, and some degree of volume
   depletion
   - continue amio
   - try to wean levophed as possible
   # Coagulapathy: PT , PTT and INR all better now so DIC picture less
   likely.  Likley from
   Medications vs.  poor nutrition. INR mildly improved after vitamin K.
   - hold on FFP for now.
   - cont trend daily
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2130-4-16**] 06:05 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2130-4-13**] 02:47 AM
   Multi Lumen - [**2130-4-15**] 12:58 PM
   Prophylaxis:
   DVT:  boots
   Stress ulcer:  ppi
   VAP:  daily wakeup
   Communication:  family meeting 3pm
   Code status: Full code
   Disposition: ICU

2130-04-17 10:32:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79 yo M critical AS, CHF, DM2 who presented with pneumonia while
   awaiting avr, course complicated by ? HIT
   24 Hour Events:
   weaning down levophed
   ciprofloxacine discontinued
   continues to have low grade temperatures
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Ciprofloxacin - [**2130-4-16**] 10:01 AM
   Meropenem - [**2130-4-17**] 04:00 AM
   Vancomycin - [**2130-4-17**] 08:00 AM
   Metronidazole - [**2130-4-17**] 09:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2130-4-16**] 09:06 PM
   Other medications:
   asa
   b12
   allpurinol
   riss
   mvi
   chlorhexadine
   protonix
   vanc 750 [**Hospital1 **]
   meropenem
   fent/versed
   flagyl 500
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-17**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.2
C (97.2
   HR: 105 (87 - 118) bpm
   BP: 91/56(69) {79/49(61) - 96/58(73)} mmHg
   RR: 21 (17 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
   CVP: 16 (9 - 16)mmHg
   CO/CI (Fick): (5.2 L/min) / (2.7 L/min/m2)
   Mixed Venous O2% Sat: 64 - 68
   Total In:
                                                                  3,669 mL
                                                                  2,055 mL
   PO:
   TF:
                                                                  1,079 mL
                                                                    459 mL
   IVF:
                                                                  2,529 mL
                                                                  1,296 mL
   Blood products:
   Total out:
                                                                  1,207 mL
                                                                    428 mL
   Urine:
                                                                  1,207 mL
                                                                    428 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,462 mL
                                                                  1,627 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 12
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   Plateau: 25 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 97%
   ABG: 7.45/48/132/33/8
   Ve: 6.5 L/min
   PaO2 / FiO2: 330
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: bilaterally)
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Decreased
   Labs / Radiology
   10.4 g/dL
   87 K/uL
   159 mg/dL
   1.0 mg/dL
   33 mEq/L
   4.5 mEq/L
   38 mg/dL
   98 mEq/L
   134 mEq/L
   31.2 %
   12.7 K/uL
        [image002.jpg]
                             [**2130-4-15**]  10:54 AM
                             [**2130-4-15**]  01:46 PM
                             [**2130-4-15**]  04:13 PM
                             [**2130-4-15**]  05:15 PM
                             [**2130-4-16**]  02:49 AM
                             [**2130-4-16**]  03:11 AM
                             [**2130-4-16**]  11:37 AM
                             [**2130-4-16**]  07:54 PM
                             [**2130-4-17**]  02:59 AM
                             [**2130-4-17**]  08:10 AM
   WBC
   15.1
   14.0
   12.7
   Hct
   34.0
   30.6
   31.2
   Plt
   88
   80
   87
   Cr
   1.3
   1.3
   1.1
   1.0
   TCO2
   35
   35
   34
   38
   31
   34
   Glucose
   112
   200
   166
   159
   Other labs: PT / PTT / INR:16.4/37.2/1.5, CK / CKMB /
   Troponin-T:33/1/0.02, ALT / AST:93/115, Alk Phos / T Bili:150/2.7,
   Amylase / Lipase:68/57, Differential-Neuts:87.0 %, Band:1.0 %,
   Lymph:2.0 %, Mono:3.0 %, Eos:6.0 %, Fibrinogen:399 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:1.7 g/dL, LDH:395 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   79 yo M critical AS, CHF, DM2 who presented with pneumonia while
   awaiting avr, course complicated by ? HIT
   1. HoTN: likely [**2-7**] AS, cardiomyopathy, sedation
    - cont aim tbb even with CVP 12-15
    - continue monitor lactate and CVO2
   2. Leukocytosis with low-grade temps: likely related to necrotizine
   pneumonia, but also has decubitus ulcer.  CVLs have all been changed.
   Gallbladder wall thickening likely nonspecific and LFTs now trending
   down
    - cont vanc/[**Last Name (un) **] x 15 days
    - cont flagyl for presumed anaerobes
    - cont monitor LFTs
   3. Respiratory failure: improving gas exchange
    - will wean PEEP
    - reattempt sbt but likely not ready for extubation
   4. LFT abnormalities: likely [**2-7**] shock liver, improving
   5. ? HIT: no clear evidence for this per hematology service
   6. Aortic stenosis: continued discussions with surgical team regarding
   timing of surgery
   7. Atrial tachycardia; somewhat stable with improved blood pressures
   8. constipation: continue bowel regimen and add fleets enema
   8. Goals of care:
    - family meeting today to discuss overall clinical course
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2130-4-16**] 06:05 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-4-13**] 02:47 AM
   Multi Lumen - [**2130-4-15**] 12:58 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2130-04-18 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Family meeting on [**4-17**] with MICU team, CT [**Name8 (MD) 91**] NP, and heme onc's
   input prior for updates on patient status. Also, discussed likely need
   for trach/PEG which family agreed to proceed with. CT [**Doctor First Name 91**] would not do
   surgery until infection cleared
   - Was able to come down on levophed from 0.16 to 0.1 overnight, this AM
   at 0.13
   - Vigileo placed, patient's CO 5-6.3, SVV [**5-14**]
   - PEEP increased back to 10 from 8
   - Plastics bedside debridement, felt c/w stage II wound
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Ciprofloxacin - [**2130-4-16**] 10:01 AM
   Vancomycin - [**2130-4-17**] 08:00 PM
   Metronidazole - [**2130-4-18**] 12:00 AM
   Meropenem - [**2130-4-18**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Norepinephrine - 0.13 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-18**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.3
C (99.2
   HR: 108 (104 - 115) bpm
   BP: 128/98(105) {128/98(105) - 128/98(105)} mmHg
   RR: 24 (19 - 30) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
    CVP: 11 (9 - 16)mmHg
   CO/CI (Fick): (4.3 L/min) / (2.2 L/min/m2)
   Mixed Venous O2% Sat: 54 - 64
   Total In:
                                                                  4,069 mL
                                                                    723 mL
   PO:
   TF:
                                                                  1,080 mL
                                                                    325 mL
   IVF:
                                                                  2,689 mL
                                                                    338 mL
   Blood products:
   Total out:
                                                                    955 mL
                                                                    296 mL
   Urine:
                                                                    955 mL
                                                                    296 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,114 mL
                                                                    427 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 338
   PIP: 32 cmH2O
   Plateau: 25 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 93%
   ABG: 7.48/43/74/32/7
   Ve: 7.8 L/min
   PaO2 / FiO2: 185
   Physical Examination
   General: Intubated and sedated, ET tube in place
   HEENT: PEARL
   Neck: LIJ in place
   Lungs: Bronchial bilaterally, L>R rales
   CV: Regular II/VI systolic murmr
   Abd: Soft nontender +bowel sounds
   Extrem Warm, anasarca, palpable distal pulses
   Neuro: Awakens to voice, follows commands to squeeze hands
   Labs / Radiology
   86 K/uL
   10.0 g/dL
   117 mg/dL
   0.9 mg/dL
   32 mEq/L
   4.4 mEq/L
   41 mg/dL
   98 mEq/L
   137 mEq/L
   31.7 %
   13.1 K/uL
        [image002.jpg]
                             [**2130-4-16**]  02:49 AM
                             [**2130-4-16**]  03:11 AM
                             [**2130-4-16**]  11:37 AM
                             [**2130-4-16**]  07:54 PM
                             [**2130-4-17**]  02:59 AM
                             [**2130-4-17**]  08:10 AM
                             [**2130-4-17**]  02:43 PM
                             [**2130-4-17**]  10:15 PM
                             [**2130-4-18**]  03:47 AM
                             [**2130-4-18**]  06:13 AM
   WBC
   15.1
   14.0
   12.7
   13.1
   Hct
   34.0
   30.6
   31.2
   31.7
   Plt
   88
   80
   87
   86
   Cr
   1.3
   1.1
   1.0
   1.0
   0.9
   TCO2
   38
   31
   34
   34
   33
   Glucose
   200
   166
   159
   176
   117
   Other labs: PT / PTT / INR:17.9/38.1/1.6, CK / CKMB /
   Troponin-T:33/1/0.02, ALT / AST:84/53, Alk Phos / T Bili:138/2.7,
   Amylase / Lipase:68/57, Differential-Neuts:87.0 %, Band:1.0 %,
   Lymph:2.0 %, Mono:3.0 %, Eos:6.0 %, Fibrinogen:399 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:1.7 g/dL, LDH:395 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   [**4-15**] glucan and galactomannan PENDING
   CXR  worsening R sided consolidation, L sided infiltrate persists. ET
   tube in good position
   Micro
   [**4-18**] blood cx pending
   [**4-18**] urine cx pending
   [**4-17**] stool cx C diff negative x1
   [**4-17**] sputum >10 epis, not further evaluated
   [**4-15**] sputum moderate growth yeast
   [**4-15**] line cx negative
   [**4-14**] pleural fluid no growth (prelim on fungal, anaerobic)
   Remaining blood cultures negative/pending
   Assessment and Plan
   79 yo M with critical aortic stenosis awaiting AVR who was admitted
   with pneumonia, hypoxia and respiratory distress. Being treated for
   VAP/aspiration PNA with recent increase in leukocytosis of unknown
   etiology, which is now trending downwards.
   # Leukocytosis , PNA - WBC trending slightly up today and still febrile
   overnight.  CXR slightly worse at bases.
   Could have bacteremia in setting of debridement, though suspect less
   likely. Prior RUQ u/s was nondiagnostic for cholecystitis
 and LFTs
   stable today (though bili not yet back). Could necrotic focus in L lung
   where antibiotic penetration is limited. Also, today concern for LUE
   clot which could also lead to fevers .,
   - continue meropenem d11,  vanc d13
 would continue for 15d course.
   Unclear that flagyl is adding much, doubt C diff, and meropenem has
   good anaerobic coverage
   - CIS, f/u micro and fungal markers
   - repeat RUQ u/s
 sludging otherwise no change
   - check LUE u/s
 negative for clot
   - will check CT chest/abd
   - will consult ID
   .
   # Hypotension: DDX septic vs cardiogenic in etiology.  Appears to be
   perfusing better running CVP on higher range, which has allowed weaning
   down on pressors.  However, now significantly positive the last few
   days
   - Continue levophed, has been weaned down to 0.12
   - Keep CVPs 12-14 --- will start lasix back today goal -1L
   - Follow urine output, MAPS goal >65
   - repeat central venous O2 and lactate
   # Respiratory failure:  Still intubated on A/C. Likely cause is HAP/
   aspiration PNA. Patient has a left sided PNA and pleural effusion (
   mostly right side).  Patient with derecruitment over weekend following
   line placement, better with increased PEEP
 did not tolerate PEEP
   weaning to 8 yesterday.
   - restarting diuresis as above
   - pneumonia treatment as above
   - wean PEEP as tolerated
   - family agrees to tracheostomy / PEG
   .
   # Critical AS/systolic CHF:
   AVR had been on hold given infection and question of HIT
   - per  heme, ok to use heparin if needed to in cards procedure as [**Male First Name (un) **]
   feel true HIT
   - discuss ?valvuloplasty options with interventional cards, CT surgery
   previously felt role for this was limited
   - f/up any cards surgery recs
   - control tachycardia as per above to improve filling time
   # transaminitis: Suspect shock liver, LFTs are stable. GB wall
   thickening on US nonspecific.
   - continue to trend
   - repeating RUQ u/s today, as above
   - liver recs appreciated
   # thrombocytopenias:  Heme following and after [**Doctor First Name 1021**] x2 positive but
   serotonin lab f/up negative, felt that overall unlikely true HIT
   was significantly lower on 2^nd PF4 assay
   Recently stable
   - need heme final note in chart regarding use of heparin in surgery
   -adding back SC heparin for DVT as appears safe now
   - cont to trend, recently ~stable
   - likely ok to use in cardiac surgery
   # atrial tachycardia:
   Likely exacerbated by pressors, infection, and some degree of volume
   depletion
   - continue amio
   - try to wean levophed as possible
   # Coagulapathy: PT , PTT and INR all better now so DIC picture less
   likely.  Likley from
   Medications vs.  poor nutrition. INR mildly improved after vitamin K.
   - hold on FFP for now.
   - cont trend daily
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2130-4-18**] 02:34 AM 45 mL/hour  --- place PEG per
   d/w family
   Glycemic Control:
   Lines:
   Arterial Line - [**2130-4-13**] 02:47 AM
   Multi Lumen - [**2130-4-15**] 12:58 PM
   Prophylaxis:
   DVT: mechanical / boots and SC Heparin
   Stress ulcer: ppi
   VAP:  head of bed elevation, mouth care, daily wakeup
   Communication:  with family
   Code status: Full code
   Disposition: ICU

2130-04-18 10:21:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Pneumonia, Sepsis
   24 Hour Events:
   Family meeting yesterday to update family regarding current medical
   status
   Bedside debridement by plastic surgery [**4-16**]
   increased pressor dependence overnight
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Ciprofloxacin - [**2130-4-16**] 10:01 AM
   Vancomycin - [**2130-4-17**] 08:00 PM
   Metronidazole - [**2130-4-18**] 07:24 AM
   Meropenem - [**2130-4-18**] 09:26 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-4-18**] 07:24 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-18**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.3
C (99.2
   HR: 106 (104 - 115) bpm
   BP: 82/58(63) {82/58(63) - 128/98(105)} mmHg
   RR: 24 (19 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
   CVP: 16 (9 - 18)mmHg
   CO/CI (Fick): (4.3 L/min) / (2.2 L/min/m2)
   Mixed Venous O2% Sat: 54 - 64
   Total In:
                                                                  4,069 mL
                                                                  1,218 mL
   PO:
   TF:
                                                                  1,080 mL
                                                                    447 mL
   IVF:
                                                                  2,689 mL
                                                                    591 mL
   Blood products:
   Total out:
                                                                    955 mL
                                                                    381 mL
   Urine:
                                                                    955 mL
                                                                    381 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,114 mL
                                                                    837 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 10
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 338
   PIP: 26 cmH2O
   Plateau: 25 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 96%
   ABG: 7.46/45/95.[**Numeric Identifier 252**]/32/6
   Ve: 8.1 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Crackles : Right,
   Rhonchorous: bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Tactile stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   86 K/uL
   117 mg/dL
   0.9 mg/dL
   32 mEq/L
   4.4 mEq/L
   41 mg/dL
   98 mEq/L
   137 mEq/L
   31.7 %
   13.1 K/uL
        [image002.jpg]
                             [**2130-4-16**]  03:11 AM
                             [**2130-4-16**]  11:37 AM
                             [**2130-4-16**]  07:54 PM
                             [**2130-4-17**]  02:59 AM
                             [**2130-4-17**]  08:10 AM
                             [**2130-4-17**]  02:43 PM
                             [**2130-4-17**]  10:15 PM
                             [**2130-4-18**]  03:47 AM
                             [**2130-4-18**]  06:13 AM
                             [**2130-4-18**]  08:24 AM
   WBC
   14.0
   12.7
   13.1
   Hct
   30.6
   31.2
   31.7
   Plt
   80
   87
   86
   Cr
   1.1
   1.0
   1.0
   0.9
   TCO2
   38
   31
   34
   34
   33
   33
   Glucose
   166
   159
   176
   117
   Other labs: PT / PTT / INR:17.9/38.1/1.6, CK / CKMB /
   Troponin-T:33/1/0.02, ALT / AST:84/53, Alk Phos / T Bili:138/2.5,
   Amylase / Lipase:68/57, Differential-Neuts:69.0 %, Band:1.0 %,
   Lymph:17.0 %, Mono:9.5 %, Eos:4.0 %, Fibrinogen:399 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:1.7 g/dL, LDH:395 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   1. Leukocytosis and new fever overnight:
    - ? response to decubitus ulcer debridement vs pneumonia vs cdif vs
   bacteremia
    - will cont vanc (13/>15), [**Last Name (un) 350**], zosyn, flagyl
    - will check chest CT
    - bronchoscopy today to assess secretions/BAL
    - LENIs
   2. Hypotension: poor forward flow in setting of aortic stenosis, MR [**First Name (Titles) **]
[**Last Name (Titles) 12584**]thy
    - start lasix gtt with aim around negative 1 L, following lactate,
   cardiac output, cvo2
   3. Respiratory failure: pneumonia versus new effusion
    - continue elevated PEEP
    - attempting diuresis
    - he will likely require prolonged ventilation, and will therefore
   proceed with trach/peg
   4. Aortic stenosis: this is limiting overall hemodynamic and
   respiratory improvement
    - will discuss possibility of valvuloplasty with interventional
   cardiology as temporizing measure
   5. CAD: holding bb in setting of sepsis, cont asa
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2130-4-18**] 02:34 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-4-13**] 02:47 AM
   Multi Lumen - [**2130-4-15**] 12:58 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2130-04-19 06:26:00 Physician Resident Progress Note
Chief Complaint: 79 yo M with critical aortic stenosis awaiting AVR who
   was admitted with pneumonia, hypoxia and respiratory distress. Being
   treated for VAP/aspiration PNA with plan for TEE/valvuloplasty today
   24 Hour Events:
   - ruq without significant change, biliary sludge. UENI left arm done
   given slight increase in swelling, negative for clot.
   - still febrile -> CT torso: R sided consolidation, large R effusion
   - ID consulted
   - resumed diuresis
   - seen by cards, will get valvuloplasty tomorrow & swan. tee prior
   Allergies:
   No Known Drug Allergies
   Thrombocytopeni
   Last dose of Antibiotics:
   Ciprofloxacin - [**2130-4-16**] 10:01 AM
   Metronidazole - [**2130-4-18**] 04:38 PM
   Vancomycin - [**2130-4-18**] 08:00 PM
   Meropenem - [**2130-4-19**] 04:24 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Norepinephrine - 0.14 mcg/Kg/min
   Furosemide (Lasix) - 9 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-4-18**] 07:24 AM
   Heparin Sodium (Prophylaxis) - [**2130-4-19**] 12:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-19**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.7
   HR: 103 (97 - 111) bpm
   BP: 82/51(64) {82/51(64) - 82/51(64)} mmHg
   RR: 21 (15 - 24) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
    CVP: 15 (8 - 24)mmHg
   Mixed Venous O2% Sat: 66 - 66
   Total In:
                                                                  3,486 mL
                                                                    382 mL
   PO:
   TF:
                                                                    835 mL
                                                                      4 mL
   IVF:
                                                                  1,451 mL
                                                                    378 mL
   Blood products:
   Total out:
                                                                  1,141 mL
                                                                    280 mL
   Urine:
                                                                  1,141 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,345 mL
                                                                    102 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 28 cmH2O
   Plateau: 27 cmH2O
   SpO2: 99%
   ABG: 7.46/43/132/33/6
   Ve: 7.3 L/min
   PaO2 / FiO2: 330
   Physical Examination
   general : sedated, intubated, arousable , appears NAD
   HEENT: PERRL, EOMI, OP clear
   neck : R IJ in place
   CVS: 3/6 systolic murmur at LUSB, no other murmurs, no rubs
   LUNGS: rhonchi bilaterally at bases, left sided crackles
   EXT: 2+ pedal pulses, boots in place
   Neuro: Awakens to voice, follows commands to squeeze hands
   Labs / Radiology
   109 K/uL
   9.8 g/dL
   142 mg/dL
   1.1 mg/dL
   33 mEq/L
   4.8 mEq/L
   47 mg/dL
   100 mEq/L
   137 mEq/L
   31.4 %
   12.0 K/uL
        [image002.jpg]
   neg urine legionella
   hep B labs , ANCA pending
                             [**2130-4-16**]  07:54 PM
                             [**2130-4-17**]  02:59 AM
                             [**2130-4-17**]  08:10 AM
                             [**2130-4-17**]  02:43 PM
                             [**2130-4-17**]  10:15 PM
                             [**2130-4-18**]  03:47 AM
                             [**2130-4-18**]  06:13 AM
                             [**2130-4-18**]  08:24 AM
                             [**2130-4-19**]  12:05 AM
                             [**2130-4-19**]  04:08 AM
   WBC
   14.0
   12.7
   13.1
   12.0
   Hct
   30.6
   31.2
   31.7
   31.4
   Plt
   80
   87
   86
   109
   Cr
   1.1
   1.0
   1.0
   0.9
   1.1
   TCO2
   34
   34
   33
   33
   32
   Glucose
   166
   159
   176
   117
   142
   Other labs: PT / PTT / INR:20.9/44.8/1.9, CK / CKMB /
   Troponin-T:33/1/0.02, ALT / AST:56/34, Alk Phos / T Bili:108/2.3,
   Amylase / Lipase:68/57, Differential-Neuts:69.0 %, Band:1.0 %,
   Lymph:17.0 %, Mono:9.5 %, Eos:4.0 %, Fibrinogen:399 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:1.7 g/dL, LDH:395 IU/L, Ca++:6.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   79 yo M with critical aortic stenosis awaiting AVR who was admitted
   with pneumonia, hypoxia and respiratory distress. Being treated for
   VAP/aspiration PNA with plan for TEE/valvuloplasty today.
   # Leukocytosis , PNA
 WBC trending downwards, 12 today, no fever
   spikes overnight.  Nothing on repeat RUQ US or CT torso indicating
   locus of untreated infection. ID involved yesterday. Continues on broad
   spectrum abx.
   - ID consulted yesterday: recs:
Suggest:
1)                 would do TEE with valvuloplasty: r/o vegs
2)                 repeat urine legionella
3)                 sputum for legionella
4)                 ANCA
5)                 ESR; CRP
6)                 Beta glucan and galactomannan
7)                 Continue IV vanco and meropenem for empiric broad coverage at
this point
8)                 d/c flagyl
9)                 c diff
10)               consider VAT after valvular repair
11)               Repeat BC for fever spikes
   - continue meropenem d12,  vanc d14
 would continue for 15d course. DC
   flagyl
   - CIS, f/u micro and fungal markers
   - f/u RUQ u/s
 sludging otherwise no change
   - f/u final read CT torso
   # Critical AS/systolic CHF:
   Plan for valvuloplasty by interventional cards today
 with TEE and PA
   cath placement
   - monitor CVPs and swan numbers post procedure
   - per  heme, ok to use heparin if needed to in cards procedure as [**Male First Name (un) **]
   feel true HIT
   - control tachycardia as per above to improve filling time
   .
   # Hypotension: DDX septic vs cardiogenic in etiology.  Appears to be
   perfusing better running CVP on higher range, which has allowed weaning
   down on pressors.  Hope that hemodynamics will improve after
   valvuloplasty, will also have PA catheter in place after
   - Continue levophed, at 0.14 this AM
   - Keep CVPs 12-14 --- will start lasix back today goal -1L
   - Follow urine output, MAPS goal >65
   - repeat central venous O2 and lactate
 check PM levels
   # Respiratory failure:  Still intubated on A/C. Likely cause is HAP/
   aspiration PNA. Patient has a left sided PNA and pleural effusion
   (mostly right side).  Patient with derecruitment over weekend following
   line placement, better with increased PEEP
 continues at PEEP 10
   - continue diuresis as above
   - pneumonia treatment as above
   - wean PEEP as tolerated
   - family agrees to tracheostomy / PEG given longterm vent
   # transaminitis: Suspect shock liver, LFTs are stable. GB wall
   thickening on US nonspecific.
   - continue to trend
   - f/u final read RUQ US but no significant change
   - liver recs appreciated
   .
   #elevated INR
   - add dose vit K today
   - trend coags
   # thrombocytopenias:  Heme following and after [**Doctor First Name 1021**] x2 positive but
   serotonin lab f/up negative, felt that overall unlikely true HIT
   was significantly lower on 2^nd PF4 assay. Platelets trending upwards.
   Final heme note in chart.
   - continue SC heparin for ppx
   - cont to trend, recently ~stable
   - likely ok to use in cardiology procedures
   # atrial tachycardia:
   Likely exacerbated by pressors, infection, and some degree of volume
   depletion
   - continue amio
   - try to wean levophed as possible
   # Coagulapathy: PT , PTT and INR all better now so DIC picture less
   likely.  Likely from
   Medications vs.  poor nutrition. Slightly increased to 1.9 this AM
   - hold on FFP for now.
   - cont trend daily
   .
   #sacral decubitus sore
   - f/up local wound care recs
   - s/p debridement with plastic surgery
   ICU Care
   Nutrition: TF on hold for procedure
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2130-4-13**] 02:47 AM
   Multi Lumen - [**2130-4-15**] 12:58 PM
   Prophylaxis:
   DVT: mechanical / boots and SC heparin
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: With family
   Code status: Full code
   Disposition: ICU

2130-04-19 10:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79 yo M critical AS, presented with pneumonia, now with cardiogenic and
   septic shock
   24 Hour Events:
   Seen by interventional cardiology with plans for balloon valvuloplasty
   today
   Seenby infectious disease, recommending TEE which will happen this am,
   d/c flagyl.
   Allergies:
   No Known Drug Allergies
   Thrombocytopeni
   Last dose of Antibiotics:
   Metronidazole - [**2130-4-18**] 04:38 PM
   Vancomycin - [**2130-4-18**] 08:00 PM
   Meropenem - [**2130-4-19**] 09:13 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Norepinephrine - 0.12 mcg/Kg/min
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-4-19**] 07:43 AM
   Heparin Sodium (Prophylaxis) - [**2130-4-19**] 07:43 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-19**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.2
   HR: 105 (97 - 111) bpm
   BP: 82/51(64) {82/51(64) - 82/51(64)} mmHg
   RR: 23 (15 - 23) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
   CVP: 11 (7 - 24)mmHg
   Mixed Venous O2% Sat: 66 - 66
   Total In:
                                                                  3,486 mL
                                                                    665 mL
   PO:
   TF:
                                                                    835 mL
                                                                      4 mL
   IVF:
                                                                  1,451 mL
                                                                    600 mL
   Blood products:
   Total out:
                                                                  1,141 mL
                                                                    650 mL
   Urine:
                                                                  1,141 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,345 mL
                                                                     15 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 32 cmH2O
   Plateau: 27 cmH2O
   SpO2: 99%
   ABG: 7.46/43/132/33/6
   Ve: 9.3 L/min
   PaO2 / FiO2: 330
   Physical Examination
   General Appearance: intubated/sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Bronchial: R, Rhonchorous: L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Tactile stimuli, Movement:
   Non -purposeful, Tone: Decreased
   Labs / Radiology
   9.8 g/dL
   109 K/uL
   142 mg/dL
   1.1 mg/dL
   33 mEq/L
   4.8 mEq/L
   47 mg/dL
   100 mEq/L
   137 mEq/L
   31.4 %
   12.0 K/uL
         [image002.jpg]
                             [**2130-4-16**]  07:54 PM
                             [**2130-4-17**]  02:59 AM
                             [**2130-4-17**]  08:10 AM
                             [**2130-4-17**]  02:43 PM
                             [**2130-4-17**]  10:15 PM
                             [**2130-4-18**]  03:47 AM
                             [**2130-4-18**]  06:13 AM
                             [**2130-4-18**]  08:24 AM
                             [**2130-4-19**]  12:05 AM
                             [**2130-4-19**]  04:08 AM
   WBC
   14.0
   12.7
   13.1
   12.0
   Hct
   30.6
   31.2
   31.7
   31.4
   Plt
   80
   87
   86
   109
   Cr
   1.1
   1.0
   1.0
   0.9
   1.1
   TCO2
   34
   34
   33
   33
   32
   Glucose
   166
   159
   176
   117
   142
   Other labs: PT / PTT / INR:20.9/44.8/1.9, CK / CKMB /
   Troponin-T:33/1/0.02, ALT / AST:56/34, Alk Phos / T Bili:108/2.3,
   Amylase / Lipase:68/57, Differential-Neuts:69.0 %, Band:1.0 %,
   Lymph:17.0 %, Mono:9.5 %, Eos:4.0 %, Fibrinogen:399 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:1.7 g/dL, LDH:395 IU/L, Ca++:6.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   79 yo M with critical AS, here with pneumonia and sepsis, awaitin
   valvuloplasty today
   1. Leukocytosis, likely [**2-7**] pneumonia, with bilateral airspace
   opacities on cxr, somewhat improved aeration on L base but more
   organized on right
    - wiill continue pulmonary toilet, wean PEEP
    - cont vanc (14) and [**Last Name (un) **] (12)
    - f/u sputum, blood cultures
    - TEE today to rule out endocarditis
   2. HoTN: likely cardiogenic with critical AS and low EF
    -will f/u hemodynamics post valvuloplasty
    - to have PA line placed in cath lab
    - will use wedge/PA pressures to assist with volume status after
   procedure
    - continue to trend lactate, CVO2
   3. Respiratory failure: pneumonia and volume overload, somewhat peep
   dependent
    - cont ARDSnet ventilation
    - likely trach and peg this week
   4. thrombocytopenia: No s/sx HIT, have restarted SQ heparin and
   platelets are improving
   5. Coagulopathy: likely nutrition and poor liver function, but cannot
   r/o dic in setting of ongoing sirs/sepsis physiology
    - check DIC labs
    - vit K 10mg SQ
   6. decubitus ulcers: wound care Rn following
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-4-13**] 02:47 AM
   Multi Lumen - [**2130-4-15**] 12:58 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2130-04-20 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - initial question of PTX small of R lobe, repeat CXR in PM --> none on
   repeat
   - bidirectional PFO on TEE--pulm HTN, EF 20% range, bicuspid valve
   --discussion w/cards and want to get dobutamine stress echo study and
   if stenosis gradient worse- may benefit from valvuloplasty with +/- PFO
   correction as he may be having poor CO from shunt/PFO
   Allergies:
   No Known Drug Allergies
   Thrombocytopeni
   Last dose of Antibiotics:
   Metronidazole - [**2130-4-18**] 04:38 PM
   Vancomycin - [**2130-4-19**] 07:34 PM
   Meropenem - [**2130-4-20**] 04:04 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Furosemide (Lasix) - 9 mg/hour
   Norepinephrine - 0.14 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-4-19**] 07:43 AM
   Fentanyl - [**2130-4-19**] 10:40 AM
   Midazolam (Versed) - [**2130-4-19**] 10:47 AM
   Heparin Sodium (Prophylaxis) - [**2130-4-20**] 12:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-20**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 98 (92 - 107) bpm
   BP: 82/51(64) {0/0(0) - 0/0(0)} mmHg
   RR: 21 (17 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
    CVP: 10 (7 - 14)mmHg
   CO/CI (Fick): (5.9 L/min) / (3 L/min/m2)
   Mixed Venous O2% Sat: 68 - 68
   Total In:
                                                                  1,878 mL
                                                                    331 mL
   PO:
   TF:
                                                                    272 mL
                                                                      8 mL
   IVF:
                                                                  1,516 mL
                                                                    323 mL
   Blood products:
   Total out:
                                                                  1,680 mL
                                                                    510 mL
   Urine:
                                                                  1,430 mL
                                                                    510 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                    198 mL
                                                                   -179 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 215
   PIP: 29 cmH2O
   Plateau: 21 cmH2O
   SpO2: 95%
   ABG: 7.44/46/133/32/6
   Ve: 8.9 L/min
   PaO2 / FiO2: 332
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   128 K/uL
   10.1 g/dL
   162 mg/dL
   1.3 mg/dL
   32 mEq/L
   4.8 mEq/L
   55 mg/dL
   99 mEq/L
   138 mEq/L
   32.3 %
   10.2 K/uL
        [image002.jpg]
                             [**2130-4-17**]  02:43 PM
                             [**2130-4-17**]  10:15 PM
                             [**2130-4-18**]  03:47 AM
                             [**2130-4-18**]  06:13 AM
                             [**2130-4-18**]  08:24 AM
                             [**2130-4-19**]  12:05 AM
                             [**2130-4-19**]  04:08 AM
                             [**2130-4-19**]  05:38 PM
                             [**2130-4-19**]  06:57 PM
                             [**2130-4-20**]  04:34 AM
   WBC
   13.1
   12.0
   10.8
   10.2
   Hct
   31.7
   31.4
   31.1
   32.3
   Plt
   86
   109
   128
   128
   Cr
   1.0
   0.9
   1.1
   1.3
   1.3
   TCO2
   34
   33
   33
   32
   32
   Glucose
   176
   117
   142
   122
   162
   Other labs: PT / PTT / INR:20.1/41.6/1.9, CK / CKMB /
   Troponin-T:33/1/0.02, ALT / AST:44/33, Alk Phos / T Bili:99/2.4,
   Amylase / Lipase:68/57, Differential-Neuts:69.0 %, Band:1.0 %,
   Lymph:17.0 %, Mono:9.5 %, Eos:4.0 %, Fibrinogen:399 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:1.8 g/dL, LDH:243 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   CXR bilateral infiltrates with worsening consolidation on L, ET tube
   ~5cm above carina
   Micro
   [**4-18**] urine legionella ag negative
   [**4-18**] sputum cx with sparse yeast
   [**4-18**] cryptococcal ag negative
   [**4-18**] blood cx NGTD, other blood cx negative/pending
   Assessment and Plan
   79 yo M with critical aortic stenosis awaiting AVR who was admitted
   with pneumonia, hypoxia and respiratory distress. Being treated for
   VAP/aspiration PNA with plan for TEE/valvuloplasty today.
# Leukocytosis , PNA
 WBC trending downwards, 12 today, no fever spikes overnig
ht.  Nothing on repeat RUQ US or CT torso indicating locus of untreated infectio
n. ID involved yesterday. Continues on broad spectrum abx.
   - continue meropenem d12,  vanc d14
 would continue for 15d course. DC
   flagyl
   - CIS, f/u micro and fungal markers
   - f/u RUQ u/s
 sludging otherwise no change
   - f/u final read CT torso
   # Critical AS/systolic CHF:
   Plan for valvuloplasty by interventional cards today
 with TEE and PA
   cath placement
   - monitor CVPs and swan numbers post procedure
   - per  heme, ok to use heparin if needed to in cards procedure as [**Male First Name (un) **]
   feel true HIT
   - control tachycardia as per above to improve filling time
   .
   # Hypotension: DDX septic vs cardiogenic in etiology.  Appears to be
   perfusing better running CVP on higher range, which has allowed weaning
   down on pressors.  Hope that hemodynamics will improve after
   valvuloplasty, will also have PA catheter in place after
   - Continue levophed, at 0.14 this AM
   - Keep CVPs 12-14 --- will start lasix back today goal -1L
   - Follow urine output, MAPS goal >65
   - repeat central venous O2 and lactate
 check PM levels
   # Respiratory failure:  Still intubated on A/C. Likely cause is HAP/
   aspiration PNA. Patient has a left sided PNA and pleural effusion
   (mostly right side).  Patient with derecruitment over weekend following
   line placement, better with increased PEEP
 continues at PEEP 10
   - continue diuresis as above
   - pneumonia treatment as above
   - wean PEEP as tolerated
   - family agrees to tracheostomy / PEG given longterm vent
   # transaminitis: Suspect shock liver, LFTs are stable. GB wall
   thickening on US nonspecific.
   - continue to trend
   - f/u final read RUQ US but no significant change
   - liver recs appreciated
   .
   #elevated INR
   - add dose vit K today
   - trend coags
   # thrombocytopenias:  Heme following and after [**Doctor First Name 1021**] x2 positive but
   serotonin lab f/up negative, felt that overall unlikely true HIT
   was significantly lower on 2^nd PF4 assay. Platelets trending upwards.
   Final heme note in chart.
   - continue SC heparin for ppx
   - cont to trend, recently ~stable
   - likely ok to use in cardiology procedures
   # atrial tachycardia:
   Likely exacerbated by pressors, infection, and some degree of volume
   depletion
   - continue amio
   - try to wean levophed as possible
   # Coagulapathy: PT , PTT and INR all better now so DIC picture less
   likely.  Likely from
   Medications vs.  poor nutrition. Slightly increased to 1.9 this AM
   - hold on FFP for now.
   - cont trend daily
   .
   #sacral decubitus sore
   - f/up local wound care recs
   - s/p debridement with plastic surgery
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2130-4-13**] 02:47 AM
   Multi Lumen - [**2130-4-15**] 12:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-04-20 12:55:00 Physician Resident Progress Note
Chief Complaint:
   79 yo M with critical aortic stenosis awaiting AVR who was admitted
   with pneumonia, hypoxia and respiratory distress. Being treated for
   VAP/aspiration PNA with plan for dobutamine stress test today
   24 Hour Events:
   - got 10 vit K today
   - Possible PTX small of R lobe, repeat CXR in PM --but view was
   obscured so ordered a left lateral decub view--> showed no pneumothorax
   -added vit k due to elevated INR still
   - TEE no vegetations, EF ~20%, aortic valve appears bicuspid,
   significant AI
   - bidirectional PFO on TEE--pulm HTN, EF 20% range, bicuspid valve
   --discussion w/cards and want to get dobutamine stress echo study and
   if stenosis gradient worse- may benefit from valvuloplasty  with +/-
   PFO correction as he may be having poor CO from shunt/PFO --will keep
   NPO after MN in case procedure tomorrow .
   Allergies:
   No Known Drug Allergies
   Thrombocytopeni
   Last dose of Antibiotics:
   Metronidazole - [**2130-4-18**] 04:38 PM
   Vancomycin - [**2130-4-19**] 07:34 PM
   Meropenem - [**2130-4-20**] 10:21 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Furosemide (Lasix) - 7 mg/hour
   Norepinephrine - 0.16 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-4-20**] 08:47 AM
   Fentanyl - [**2130-4-20**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-20**] 12:52 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37
C (98.6
   Tcurrent: 35.8
C (96.5
   HR: 94 (92 - 106) bpm
   BP: 82/51(64) {0/0(0) - 0/0(0)} mmHg
   RR: 19 (18 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
    CVP: 10 (7 - 14)mmHg
   CO/CI (Fick): (5.9 L/min) / (3 L/min/m2)
   Mixed Venous O2% Sat: 68 - 68
   Total In:
                                                                  1,878 mL
                                                                    660 mL
   PO:
   TF:
                                                                    272 mL
                                                                      8 mL
   IVF:
                                                                  1,516 mL
                                                                    593 mL
   Blood products:
   Total out:
                                                                  1,680 mL
                                                                  1,110 mL
   Urine:
                                                                  1,430 mL
                                                                  1,110 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                    198 mL
                                                                   -449 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 215
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   Compliance: 18.2 cmH2O/mL
   SpO2: 94%
   ABG: 7.44/46/133/32/6
   Ve: 8.1 L/min
   PaO2 / FiO2: 332
   Physical Examination:
   General : Intubated, sedated
   HEENT:  PERRL
   Lungs: Good air movement anteriorly
   CV: no new murmurs, RR
   Abd: soft, obese
   Ext: WWP
   Labs / Radiology
   128 K/uL
   10.1 g/dL
   162 mg/dL
   1.3 mg/dL
   32 mEq/L
   4.8 mEq/L
   55 mg/dL
   99 mEq/L
   138 mEq/L
   32.3 %
   10.2 K/uL
        [image002.jpg]
                             [**2130-4-17**]  02:43 PM
                             [**2130-4-17**]  10:15 PM
                             [**2130-4-18**]  03:47 AM
                             [**2130-4-18**]  06:13 AM
                             [**2130-4-18**]  08:24 AM
                             [**2130-4-19**]  12:05 AM
                             [**2130-4-19**]  04:08 AM
                             [**2130-4-19**]  05:38 PM
                             [**2130-4-19**]  06:57 PM
                             [**2130-4-20**]  04:34 AM
   WBC
   13.1
   12.0
   10.8
   10.2
   Hct
   31.7
   31.4
   31.1
   32.3
   Plt
   86
   109
   128
   128
   Cr
   1.0
   0.9
   1.1
   1.3
   1.3
   TCO2
   34
   33
   33
   32
   32
   Glucose
   176
   117
   142
   122
   162
   Other labs: PT / PTT / INR:20.1/41.6/1.9, CK / CKMB /
   Troponin-T:33/1/0.02, ALT / AST:44/33, Alk Phos / T Bili:99/2.4,
   Amylase / Lipase:68/57, Differential-Neuts:69.0 %, Band:1.0 %,
   Lymph:17.0 %, Mono:9.5 %, Eos:4.0 %, Fibrinogen:399 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:1.8 g/dL, LDH:243 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   CT torso [**4-18**]:
   1. Interval worsening of multifocal airspace opacities, most prominent
   within
   the left lung and right middle lobe. No abscess collection is noted;
   however,
   no IV contrast has been administered.
   2. Unchanged moderate-to-severe right and small left pleural effusion.
   3. Unchanged dilated ascending aorta measuring 5 cm.
   79 yo M with critical aortic stenosis awaiting AVR who was admitted
   with pneumonia, hypoxia and respiratory distress. Being treated for
   VAP/aspiration PNA with plan for dobutamine stress test in setting of
   PFO found on TEE yesterday.
   # Critical AS/systolic CHF:
   bidirectional PFO on TEE--pulm HTN, EF 20% range, bicuspid valve
   --discussion w/cards and want to get dobutamine stress echo study and
   if stenosis gradient worse- may benefit from valvuloplasty  with +/-
   PFO correction as he may be having poor CO from shunt/PFO
   - f/u dobutamine stress test today
   - f/u interventional cards recs post stress test, ask regarding any
   benefit to adding beta blocker
   --will keep NPO after MN in case procedure tomorrow .
    - monitor CVPs and swan numbers post procedure
   - per  heme, ok to use heparin if needed to in cards procedure as [**Male First Name (un) **]
   feel true HIT
   - control tachycardia as per above to improve filling time
   # Leukocytosis , PNA
 WBC trending downwards, no fever spikes on
   current abx regimen. ID involved. No vegetations on TEE yesterday
   - ID following, appreciate recs
   - f/u beta glucan, galactomanna, ANCA, CRP, cultures
- consider VAT after valvular repair
   - continue meropenem d13,  vanc d15
 Plan for additional 2 days of
   antibiotics (2 days post procedure per ID recs)
   - CIS, f/u micro and fungal markers
   # Hypotension: DDX septic vs cardiogenic in etiology.  Appears to be
   perfusing better running CVP on higher range, which has allowed weaning
   down on pressors.  Hope that hemodynamics will improve after
   valvuloplasty, will also have PA catheter in place after
   - Continue levophed, at 0.16 this AM
   - Keep CVPs 12-14 --- will start lasix back today goal -500ml, keep
   negative for now
   - Follow urine output, MAPS goal >65
   - repeat central venous O2 and lactate
 check PM levels
   # Respiratory failure:  Still intubated on A/C. Likely cause is HAP/
   aspiration PNA. Patient has a left sided PNA and pleural effusion
   (mostly right side).  Were able to weaned down for PEEP to 5
   - continue diuresis as above
   - pneumonia treatment as above
   - wean PEEP as tolerated
   - family agrees to tracheostomy / PEG given longterm vent
   # transaminitis: Suspect shock liver, LFTs are stable. GB wall
   thickening on US nonspecific.
   - continue to trend
   - f/u final read RUQ US but no significant change
   - liver recs appreciated
   .
   #elevated INR: Still 1.9
   - additional dose vit K today
   - trend coags
   # thrombocytopenias:  Heme following and after [**Doctor First Name 1021**] x2 positive but
   serotonin lab f/up negative, felt that overall unlikely true HIT
   was significantly lower on 2^nd PF4 assay. Platelets trending upwards.
   Final heme note in chart.
   - continue SC heparin for ppx
   - cont to trend, recently ~stable
   - likely ok to use in cardiology procedures
   # atrial tachycardia:
   Likely exacerbated by pressors, infection, and some degree of volume
   depletion
   - continue amio
   - try to wean levophed as possible
   # Coagulapathy: PT , PTT and INR all better now so DIC picture less
   likely.  Likely from
   Medications vs.  poor nutrition. Slightly increased to 1.9 this AM
   - hold on FFP for now.
   - cont trend daily
   .
   #sacral decubitus sore
   - f/up local wound care recs
   - continue enzymatic debridement
   ICU Care
   Nutrition: TFs
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2130-4-13**] 02:47 AM
   Multi Lumen - [**2130-4-15**] 12:58 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: Family
   Code status: Full code
   Disposition: ICU

2130-04-20 13:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79 yo M with
   24 Hour Events:
   TEE with bicuspid aortic valve and bidirectional PFT
   Dobutamine stress test recomended to assess degree of gradient
   Allergies:
   No Known Drug Allergies
   Thrombocytopeni
   Last dose of Antibiotics:
   Metronidazole - [**2130-4-18**] 04:38 PM
   Vancomycin - [**2130-4-19**] 07:34 PM
   Meropenem - [**2130-4-20**] 10:21 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Furosemide (Lasix) - 7 mg/hour
   Norepinephrine - 0.16 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-4-20**] 08:47 AM
   Fentanyl - [**2130-4-20**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-20**] 01:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37
C (98.6
   Tcurrent: 35.8
C (96.5
   HR: 94 (92 - 106) bpm
   BP: 82/51(64) {0/0(0) - 0/0(0)} mmHg
   RR: 19 (18 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
   CVP: 10 (7 - 14)mmHg
   CO/CI (Fick): (5.9 L/min) / (3 L/min/m2)
   Mixed Venous O2% Sat: 68 - 68
   Total In:
                                                                  1,878 mL
                                                                    658 mL
   PO:
   TF:
                                                                    272 mL
                                                                      8 mL
   IVF:
                                                                  1,516 mL
                                                                    590 mL
   Blood products:
   Total out:
                                                                  1,680 mL
                                                                  1,110 mL
   Urine:
                                                                  1,430 mL
                                                                  1,110 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                    198 mL
                                                                   -452 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 215
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   Compliance: 18.2 cmH2O/mL
   SpO2: 94%
   ABG: 7.44/46/133/32/6
   Ve: 8.1 L/min
   PaO2 / FiO2: 332
   Physical Examination
   General Appearance: Well nourished, Thin, intubated, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: ), tubular breath
   sounds LUL
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, Tone: Decreased
   Labs / Radiology
   10.1 g/dL
   128 K/uL
   162 mg/dL
   1.3 mg/dL
   32 mEq/L
   4.8 mEq/L
   55 mg/dL
   99 mEq/L
   138 mEq/L
   32.3 %
   10.2 K/uL
        [image002.jpg]
                             [**2130-4-17**]  02:43 PM
                             [**2130-4-17**]  10:15 PM
                             [**2130-4-18**]  03:47 AM
                             [**2130-4-18**]  06:13 AM
                             [**2130-4-18**]  08:24 AM
                             [**2130-4-19**]  12:05 AM
                             [**2130-4-19**]  04:08 AM
                             [**2130-4-19**]  05:38 PM
                             [**2130-4-19**]  06:57 PM
                             [**2130-4-20**]  04:34 AM
   WBC
   13.1
   12.0
   10.8
   10.2
   Hct
   31.7
   31.4
   31.1
   32.3
   Plt
   86
   109
   128
   128
   Cr
   1.0
   0.9
   1.1
   1.3
   1.3
   TCO2
   34
   33
   33
   32
   32
   Glucose
   176
   117
   142
   122
   162
   Other labs: PT / PTT / INR:20.1/41.6/1.9, CK / CKMB /
   Troponin-T:33/1/0.02, ALT / AST:44/33, Alk Phos / T Bili:99/2.4,
   Amylase / Lipase:68/57, Differential-Neuts:69.0 %, Band:1.0 %,
   Lymph:17.0 %, Mono:9.5 %, Eos:4.0 %, Fibrinogen:399 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:1.8 g/dL, LDH:243 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   1. Aortic stenosis and possible aortic regurgitation:
    - f/u dobutamine stress test, may be candidate for PFO closure vs
   valvuloplasty
    - appreciate interventional cardiology input
   2. HAP:
    - day 15/15 vanc, day 13/15 [**Last Name (un) **]
    - will continue meropenem for now, check vancoymcin level, woudl
   consider d/c vancomycin given prolonged course but concern for occult
   infection
   3. HoTN: likely cardiogenic, complicated by AS, MR, AR as well as
   sedating medications, increased pressor requirement this am in setting
   of increasing his fentanyl
    - will continue to proceed with gentle diuresis and aim tbb - 500 cc
   today with lasix gtt
   4. Respiratory failure: likely [**2-7**] pna, volume overload and possible
   shunt physiology
    - cont diuresis which may help both volume overload and shunt
    - cont abx as above
   5. Atrial tachycardia: pts hemodynamics are best when HR < 100, however
   he remains with pressor dependent
   6. HIT: no evidence of this and receiving subq heparin
   7. Elevated INR: cont vit K x 3days
   8.  sacral decubitus: following wound care CNS
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-4-13**] 02:47 AM
   Multi Lumen - [**2130-4-15**] 12:58 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2130-04-21 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2130-4-20**] 02:58 PM
   - Dobutamine stress test showed some contractile reserve, likely would
   have benefit to valvuloplasty/PFO repair however need repeat Dobutamine
   stress test on [**4-21**] to do flow gradient calculations across aortic
   valve
   - Lasix gtt was briefly stopped, but UOP dropped, so restarted at low
   dose with goal to maintain patient even fluid balance
   - 3pm family meeting to update family, address questions
   - ID recommended 2 additional days of antibiotics, signed off
   Allergies:
   No Known Drug Allergies
   Thrombocytopeni
   Last dose of Antibiotics:
   Metronidazole - [**2130-4-18**] 04:38 PM
   Vancomycin - [**2130-4-20**] 08:00 PM
   Meropenem - [**2130-4-21**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Norepinephrine - 0.18 mcg/Kg/min
   Furosemide (Lasix) - 2.5 mg/hour
   Other ICU medications:
   Fentanyl - [**2130-4-20**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-4-21**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-21**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 114 (93 - 114) bpm
   BP: 87/55(68) {81/51(64) - 90/58(70)} mmHg
   RR: 21 (17 - 22) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
    CVP: 14 (6 - 14)mmHg
   Total In:
                                                                  1,479 mL
                                                                    363 mL
   PO:
                                                                     60 mL
   TF:
                                                                      8 mL
   IVF:
                                                                  1,291 mL
                                                                    363 mL
   Blood products:
   Total out:
                                                                  2,210 mL
                                                                    410 mL
   Urine:
                                                                  2,210 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -731 mL
                                                                    -47 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Sao2 < 90%
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 96%
   ABG: ///29/
   Ve: 8.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   128 K/uL
   9.7 g/dL
   120 mg/dL
   1.3 mg/dL
   29 mEq/L
   4.6 mEq/L
   57 mg/dL
   100 mEq/L
   137 mEq/L
   31.9 %
   8.5 K/uL
        [image002.jpg]
                             [**2130-4-18**]  03:47 AM
                             [**2130-4-18**]  06:13 AM
                             [**2130-4-18**]  08:24 AM
                             [**2130-4-19**]  12:05 AM
                             [**2130-4-19**]  04:08 AM
                             [**2130-4-19**]  05:38 PM
                             [**2130-4-19**]  06:57 PM
                             [**2130-4-20**]  04:34 AM
                             [**2130-4-20**]  03:02 PM
                             [**2130-4-21**]  02:19 AM
   WBC
   13.1
   12.0
   10.8
   10.2
   8.5
   Hct
   31.7
   31.4
   31.1
   32.3
   31.9
   Plt
   86
   109
   128
   128
   128
   Cr
   0.9
   1.1
   1.3
   1.3
   1.3
   1.3
   TCO2
   33
   33
   32
   32
   Glucose
   117
   142
   122
   162
   120
   120
   Other labs: PT / PTT / INR:20.7/43.5/1.9, CK / CKMB /
   Troponin-T:33/1/0.02, ALT / AST:35/28, Alk Phos / T Bili:81/2.8,
   Amylase / Lipase:68/57, Differential-Neuts:69.0 %, Band:1.0 %,
   Lymph:17.0 %, Mono:9.5 %, Eos:4.0 %, Fibrinogen:399 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:1.6 g/dL, LDH:236 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   79 yo M with critical aortic stenosis awaiting AVR who was admitted
   with pneumonia, hypoxia and respiratory distress. Being treated for
   VAP/aspiration PNA with plan for dobutamine stress test in setting of
   PFO found on TEE yesterday.
   # Critical AS/systolic CHF:
   bidirectional PFO on TEE--pulm HTN, EF 20% range, bicuspid valve
   --discussion w/cards and want to get dobutamine stress echo study and
   if stenosis gradient worse- may benefit from valvuloplasty  with +/-
   PFO correction as he may be having poor CO from shunt/PFO
   - f/u dobutamine stress test today
   - f/u interventional cards recs post stress test, ask regarding any
   benefit to adding beta blocker
   --will keep NPO after MN in case procedure tomorrow .
    - monitor CVPs and swan numbers post procedure
   - per  heme, ok to use heparin if needed to in cards procedure as [**Male First Name (un) **]
   feel true HIT
   - control tachycardia as per above to improve filling time
   # Leukocytosis , PNA
 WBC trending downwards, no fever spikes on
   current abx regimen. ID involved. No vegetations on TEE yesterday
   - ID following, appreciate recs
   - f/u beta glucan, galactomanna, ANCA, CRP, cultures
- consider VAT after valvular repair
   - continue meropenem d13,  vanc d15
 Plan for additional 2 days of
   antibiotics (2 days post procedure per ID recs)
   - CIS, f/u micro and fungal markers
   # Hypotension: DDX septic vs cardiogenic in etiology.  Appears to be
   perfusing better running CVP on higher range, which has allowed weaning
   down on pressors.  Hope that hemodynamics will improve after
   valvuloplasty, will also have PA catheter in place after
   - Continue levophed, at 0.16 this AM
   - Keep CVPs 12-14 --- will start lasix back today goal -500ml, keep
   negative for now
   - Follow urine output, MAPS goal >65
   - repeat central venous O2 and lactate
 check PM levels
   # Respiratory failure:  Still intubated on A/C. Likely cause is HAP/
   aspiration PNA. Patient has a left sided PNA and pleural effusion
   (mostly right side).  Were able to weaned down for PEEP to 5
   - continue diuresis as above
   - pneumonia treatment as above
   - wean PEEP as tolerated
   - family agrees to tracheostomy / PEG given longterm vent
   # transaminitis: Suspect shock liver, LFTs are stable. GB wall
   thickening on US nonspecific.
   - continue to trend
   - f/u final read RUQ US but no significant change
   - liver recs appreciated
   .
   #elevated INR: Still 1.9
   - additional dose vit K today
   - trend coags
   # thrombocytopenias:  Heme following and after [**Doctor First Name 1021**] x2 positive but
   serotonin lab f/up negative, felt that overall unlikely true HIT
   was significantly lower on 2^nd PF4 assay. Platelets trending upwards.
   Final heme note in chart.
   - continue SC heparin for ppx
   - cont to trend, recently ~stable
   - likely ok to use in cardiology procedures
   # atrial tachycardia:
   Likely exacerbated by pressors, infection, and some degree of volume
   depletion
   - continue amio
   - try to wean levophed as possible
   # Coagulapathy: PT , PTT and INR all better now so DIC picture less
   likely.  Likely from
   Medications vs.  poor nutrition. Slightly increased to 1.9 this AM
   - hold on FFP for now.
   - cont trend daily
   .
   #sacral decubitus sore
   - f/up local wound care recs
   - continue enzymatic debridement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2130-4-13**] 02:47 AM
   Multi Lumen - [**2130-4-15**] 12:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-04-21 12:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79 yo M critical AS, admitted to ICU with pneumonia, course complicated
   by recurrent HAP
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2130-4-20**] 02:58 PM
   Allergies:
   No Known Drug Allergies
   Thrombocytopeni
   Last dose of Antibiotics:
   Metronidazole - [**2130-4-18**] 04:38 PM
   Vancomycin - [**2130-4-20**] 08:00 PM
   Meropenem - [**2130-4-21**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Norepinephrine - 0.18 mcg/Kg/min
   Furosemide (Lasix) - 2.5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-4-21**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-21**] 12:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.2
C (97.2
   HR: 111 (97 - 116) bpm
   BP: 84/54(66) {81/48(62) - 96/60(75)} mmHg
   RR: 23 (17 - 24) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
   CVP: 11 (6 - 14)mmHg
   Total In:
                                                                  1,479 mL
                                                                    637 mL
   PO:
                                                                     60 mL
   TF:
                                                                      8 mL
   IVF:
                                                                  1,291 mL
                                                                    517 mL
   Blood products:
   Total out:
                                                                  2,210 mL
                                                                    860 mL
   Urine:
                                                                  2,210 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -731 mL
                                                                   -223 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Sao2 < 90%
   PIP: 28 cmH2O
   Plateau: 27 cmH2O
   Compliance: 18.2 cmH2O/mL
   SpO2: 97%
   ABG: ///29/
   Ve: 8 L/min
   Physical Examination
   General Appearance: No acute distress, No(t) Diaphoretic, intubated,
   sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: Tactile stimuli, Movement: Non
   -purposeful, Sedated, Tone: Decreased
   Labs / Radiology
   9.7 g/dL
   128 K/uL
   120 mg/dL
   1.3 mg/dL
   29 mEq/L
   4.6 mEq/L
   57 mg/dL
   100 mEq/L
   137 mEq/L
   31.9 %
   8.5 K/uL
        [image002.jpg]
                             [**2130-4-18**]  03:47 AM
                             [**2130-4-18**]  06:13 AM
                             [**2130-4-18**]  08:24 AM
                             [**2130-4-19**]  12:05 AM
                             [**2130-4-19**]  04:08 AM
                             [**2130-4-19**]  05:38 PM
                             [**2130-4-19**]  06:57 PM
                             [**2130-4-20**]  04:34 AM
                             [**2130-4-20**]  03:02 PM
                             [**2130-4-21**]  02:19 AM
   WBC
   13.1
   12.0
   10.8
   10.2
   8.5
   Hct
   31.7
   31.4
   31.1
   32.3
   31.9
   Plt
   86
   109
   128
   128
   128
   Cr
   0.9
   1.1
   1.3
   1.3
   1.3
   1.3
   TCO2
   33
   33
   32
   32
   Glucose
   117
   142
   122
   162
   120
   120
   Other labs: PT / PTT / INR:20.7/43.5/1.9, CK / CKMB /
   Troponin-T:33/1/0.02, ALT / AST:35/28, Alk Phos / T Bili:81/2.8,
   Amylase / Lipase:68/57, Differential-Neuts:69.0 %, Band:1.0 %,
   Lymph:17.0 %, Mono:9.5 %, Eos:4.0 %, Fibrinogen:399 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:1.6 g/dL, LDH:236 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   79 yo M critical AS, admitted to ICU with pneumonia, course complicated
   by recurrent HAP
   1. AS:
    - s/p dobutamine stress test with evidence that his hemodynamics would
   benefit from valvuloplasty
    - valvulopplasty this afternoon with PA line at the time, will hold
   off on PFO repair
   2. Pneumonia:
    - will compete 15 day course vanc/[**Last Name (un) **]
   3. LFT abnormalities: likely [**2-7**] shock liver, will decrease checking
   4. Hemodynamics: will have PA line after procedure and will use this to
   guide volume management.  If he demonstrates good response to
   valvuloplasty, his need for aggressive heart rate control with
   amiodarone wll be less and will decrease this medication
   5. Respiratory failure: likely [**2-7**] muscle weakness, pneumonia, volume
   overload
    - plan for trach and peg on monday after his procedure, family is
   aware.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-4-13**] 02:47 AM
   Multi Lumen - [**2130-4-15**] 12:58 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2130-04-22 06:44:00 Physician Resident Progress Note
Chief Complaint:
   79 yo M with critical aortic stenosis who was admitted with pneumonia,
   hypoxia and respiratory distress, being treated for VAP/aspiration PNA
   and now s/p recent valvuloplasty
   24 Hour Events:
   - underwent valvuloplasty [**Location (un) 549**] 0.5->0.91
   - Swan placed
   - stopped amiodarone - pt with h/o pulmonary fibrosis, unclear to what
   extent L sided changes represent infection
   - attempted new R A line, but only dopplerable pulse and unable to
   place
   Allergies:
   No Known Drug Allergies
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2130-4-21**] 09:00 PM
   Meropenem - [**2130-4-22**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-22**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.5
C (97.7
   HR: 98 (97 - 116) bpm
   BP: 87/52(61) {79/49(56) - 87/55(61)} mmHg
   RR: 19 (0 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
    CVP: 13 (8 - 20)mmHg
   PAP: (61 mmHg) / (31 mmHg)
   PCWP: 25 (25 - 25) mmHg
   CO/CI (Thermodilution): (4.76 L/min) / (2 L/min/m2)
   SVR: 1,073 dynes*sec/cm5
   PVR: 401 dynes*sec/cm5
   SV: 40 mL
   SVI: 20 mL/m2
   Total In:
                                                                  2,004 mL
                                                                    647 mL
   PO:
   TF:
                                                                     90 mL
                                                                    303 mL
   IVF:
                                                                  1,704 mL
                                                                    344 mL
   Blood products:
   Total out:
                                                                  1,445 mL
                                                                    470 mL
   Urine:
                                                                  1,395 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    559 mL
                                                                    177 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   SpO2: 94%
   ABG: 7.44/49/371/28/8
   Ve: 7 L/min
   PaO2 / FiO2: 928
   Physical Examination
   General : Intubated, sedated, swan now in place , pallid complexion
   HEENT:  PERRL, EOMI with prompting, OP clear
   Lungs:  good air movement anteriorly and laterally
   CV: no new murmurs, RRR,
   Abd: soft, obese, appears nontender and nondistended , NABS
   Ext:  boots in place, 2+ pedal pulses
   Labs / Radiology
   84 K/uL
   9.5 g/dL
   163 mg/dL
   1.3 mg/dL
   28 mEq/L
   4.1 mEq/L
   61 mg/dL
   103 mEq/L
   140 mEq/L
   29.6 %
   5.7 K/uL
        [image002.jpg]
                             [**2130-4-19**]  12:05 AM
                             [**2130-4-19**]  04:08 AM
                             [**2130-4-19**]  05:38 PM
                             [**2130-4-19**]  06:57 PM
                             [**2130-4-20**]  04:34 AM
                             [**2130-4-20**]  03:02 PM
                             [**2130-4-21**]  02:19 AM
                             [**2130-4-21**]  02:23 PM
                             [**2130-4-21**]  07:45 PM
                             [**2130-4-22**]  03:36 AM
   WBC
   12.0
   10.8
   10.2
   8.5
   5.7
   Hct
   31.4
   31.1
   32.3
   31.9
   31
   30.9
   29.6
   Plt
   109
   128
   128
   128
   122
   84
   Cr
   1.1
   1.3
   1.3
   1.3
   1.3
   1.3
   TCO2
   32
   32
   34
   Glucose
   142
   122
   162
   120
   120
   163
   Other labs: PT / PTT / INR:22.0/136.1/2.1, CK / CKMB /
   Troponin-T:20/1/0.02, ALT / AST:35/28, Alk Phos / T Bili:81/2.8,
   Amylase / Lipase:68/57, Differential-Neuts:69.0 %, Band:1.0 %,
   Lymph:17.0 %, Mono:9.5 %, Eos:4.0 %, Fibrinogen:399 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:1.6 g/dL, LDH:236 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   79 yo M with critical aortic stenosis awaiting AVR who was admitted
   with pneumonia, hypoxia and respiratory distress. Being treated for
   VAP/aspiration PNA with plan for dobutamine stress test in setting of
   PFO found on TEE. Plan for valvuloplasty today.
   # Critical AS/systolic CHF:
   bidirectional PFO on TEE--pulm HTN, EF 20% range, bicuspid valve
plan
   for valvuloplasty at 3-4pm today by interventional cardiology
   - f/u dobutamine stress test today
   - consider beta blocker to control tachycardia after procedure, if can
   wean
   --will keep NPO after MN in case procedure tomorrow .
    - monitor CVPs and swan numbers post procedure
   - per  heme, ok to use heparin if needed to in cards procedure as [**Male First Name (un) **]
   feel true HIT
   - control tachycardia as per above to improve filling time
   # Leukocytosis , PNA
 WBC trending downwards, no fever spikes on
   current abx regimen. ID involved. No vegetations on TEE yesterday.
   Other possible etiology is Amiodarone induced organizing PNA -
   - ID following, appreciate recs
   - f/u beta glucan, galactomanna, ANCA, CRP, cultures
- consider VAT after valvular repair
   - continue meropenem d14,  vanc d16
 Plan for additional 1 day of
   antibiotics (2 days post procedure per ID recs)
   - CIS, f/u micro and fungal markers
   - can consider stopping Amiodarone after procedure if not needed
   # Hypotension: DDX septic vs cardiogenic in etiology.  Appears to be
   perfusing better running CVP on higher range, which has allowed weaning
   down on pressors.  Hope that hemodynamics will improve after
   valvuloplasty, will also have PA catheter in place after.
   - Continue levophed, at 0.16 this AM
   - Run patient even today
   - Follow urine output, MAPS goal >65
   - repeat central venous O2 and lactate
 check PM levels
   # Respiratory failure:  Still intubated on A/C. Likely cause is HAP/
   aspiration PNA. Patient has a left sided PNA and pleural effusion
   (mostly right side).  Has been stable on PEEP to 5
   - continue diuresis as above
   - pneumonia treatment as above
   - wean PEEP as tolerated
   - family agrees to tracheostomy / PEG given longterm vent
   # transaminitis: Suspect shock liver, LFTs are stable. GB wall
   thickening on US nonspecific.
   - continue to trend
   - f/u final read RUQ US but no significant change
   - liver recs appreciated
   .
   #elevated INR: Still 1.9
   - additional dose vit K today
   - trend coags
   # thrombocytopenias:  Heme following and after [**Doctor First Name 1021**] x2 positive but
   serotonin lab f/up negative, felt that overall unlikely true HIT
   was significantly lower on 2^nd PF4 assay. Platelets trending upwards.
   Final heme note in chart.
   - continue SC heparin for ppx
   - cont to trend, recently ~stable
   - likely ok to use in cardiology procedures
   # atrial tachycardia:
   Likely exacerbated by pressors, infection, and some degree of volume
   depletion
   - continue amio
   - try to wean levophed as possible
   # Coagulapathy: PT , PTT and INR all better now so DIC picture less
   likely.  Likely from
   Medications vs.  poor nutrition. Slightly increased to 1.9 this AM
   - give 10mg vitamin K today
   - cont trend daily
   .
   #sacral decubitus sore
   - f/up local wound care recs
   - continue enzymatic debridement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-4-21**] 10:00 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2130-4-13**] 02:47 AM
   Multi Lumen - [**2130-4-15**] 12:58 PM
   PA Catheter - [**2130-4-21**] 05:00 PM
   Cordis/Introducer - [**2130-4-21**] 05:04 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2130-04-22 12:32:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   S/p valvuloplasty yesterday, PAC placed at the time.
   Amiodarone stopped yesterday.
   Levophed requirement increased this AM.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2130-4-21**] 09:00 PM
   Meropenem - [**2130-4-22**] 09:52 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Norepinephrine - 0.15 mcg/Kg/min
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-4-22**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-4-22**] 08:00 AM
   Other medications:
   Vit B12, allopurinol, RISS, MVI, ASA
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-22**] 12:32 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.2
   HR: 98 (97 - 111) bpm
   BP: 87/52(61) {85/52(61) - 87/55(61)} mmHg
   RR: 16 (0 - 23) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
   CVP: 17 (10 - 20)mmHg
   PAP: (68 mmHg) / (35 mmHg)
   PCWP: 25 (25 - 25) mmHg
   CO/CI (Thermodilution): (5.29 L/min) / (2.7 L/min/m2)
   SVR: 711 dynes*sec/cm5
   PVR: 401 dynes*sec/cm5
   SV: 54 mL
   SVI: 28 mL/m2
   Total In:
                                                                  2,004 mL
                                                                  1,168 mL
   PO:
   TF:
                                                                     90 mL
                                                                    534 mL
   IVF:
                                                                  1,704 mL
                                                                    634 mL
   Blood products:
   Total out:
                                                                  1,445 mL
                                                                    670 mL
   Urine:
                                                                  1,395 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    559 mL
                                                                    498 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   SpO2: 92%
   ABG: 7.44/49/371/28/8
   Ve: 6.8 L/min
   PaO2 / FiO2: 928
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : L anteriorly,
   Bronchial: L anteriorly)
   Abdominal: Soft, Bowel sounds present, ? grimacing with palpation
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, Extremities warm
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   84 K/uL
   163 mg/dL
   1.3 mg/dL
   28 mEq/L
   4.1 mEq/L
   61 mg/dL
   103 mEq/L
   140 mEq/L
   29.6 %
   5.7 K/uL
        [image002.jpg]
                             [**2130-4-19**]  12:05 AM
                             [**2130-4-19**]  04:08 AM
                             [**2130-4-19**]  05:38 PM
                             [**2130-4-19**]  06:57 PM
                             [**2130-4-20**]  04:34 AM
                             [**2130-4-20**]  03:02 PM
                             [**2130-4-21**]  02:19 AM
                             [**2130-4-21**]  02:23 PM
                             [**2130-4-21**]  07:45 PM
                             [**2130-4-22**]  03:36 AM
   WBC
   12.0
   10.8
   10.2
   8.5
   5.7
   Hct
   31.4
   31.1
   32.3
   31.9
   31
   30.9
   29.6
   Plt
   109
   128
   128
   128
   122
   84
   Cr
   1.1
   1.3
   1.3
   1.3
   1.3
   1.3
   TCO2
   32
   32
   34
   Glucose
   142
   122
   162
   120
   120
   163
   Other labs: PT / PTT / INR:22.0/136.1/2.1, CK / CKMB /
   Troponin-T:20/1/0.02, ALT / AST:35/28, Alk Phos / T Bili:81/2.8,
   Amylase / Lipase:68/57, Differential-Neuts:69.0 %, Band:1.0 %,
   Lymph:17.0 %, Mono:9.5 %, Eos:4.0 %, Fibrinogen:399 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:1.6 g/dL, LDH:236 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR:  IJ and PAC in place.  ETT in position.  B/L dense
   airspace disease L>R.
   Assessment and Plan
   79 yo M critical AS, admitted to ICU with pneumonia, course complicated
   by recurrent HAP
    1.) Shock:  Likely combination of cardiogenic and distributive (likely
   from sepsis).  Warm extremities  and adequate CO suggests that
   distributive process dominates.
   -Will hold off on inotrope trial given CO and warm periphery
   -Will still try to target some diureses with lasix gtt but will try to
   keep CVP at 12.
   -Will broaden abx coverage by adding cipro vanc given increasing
   pressors this AM and increased sputum
   -Pan culture
   -Send LFT's, amylase/lipase.
   -Repeat PCWP today.  Send mVO2
   2.)  AS:
   -Valve area increased post valvuloplasty, however, hemodynamics not
   significantly improved thus far.
   3.) Repiratory Failure: Secondary to pneumonia and large effusion.
   -Will continue with A/C for now until ? new PNA is resolved.
   4.) Atrial tachycardia:  Currently off all rate control agents.
   Amiodarone if needed.
   Rest of plan per resident note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-4-21**] 10:00 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-4-13**] 02:47 AM
   Multi Lumen - [**2130-4-15**] 12:58 PM
   PA Catheter - [**2130-4-21**] 05:00 PM
   Cordis/Introducer - [**2130-4-21**] 05:04 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2130-04-23 06:44:00 Physician Resident Progress Note
Chief Complaint:
   79 yo M with critical aortic stenosis who was admitted with pneumonia,
   hypoxia and respiratory distress, being treated for VAP/aspiration PNA
   and now s/p recent valvuloplasty
   24 Hour Events:
   -sent off pan cultures ( no fevers but ongoing low blood pressures)
   -adjusted vanco dose down from 1.25g qdaily to 1g daily, held PM dose
   due to elevated trough at 25
   - trended PCWP q8hrs, went from 25--> 20--> 20
   - family meeting with update in afternoon
   Allergies:
   No Known Drug Allergies
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2130-4-21**] 09:00 PM
   Metronidazole - [**2130-4-23**] 12:28 AM
   Ciprofloxacin - [**2130-4-23**] 03:35 AM
   Meropenem - [**2130-4-23**] 04:42 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Fentanyl (Concentrate) - 25 mcg/hour
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-4-22**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-4-22**] 07:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-23**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (97
   HR: 97 (97 - 101) bpm
   BP: 87/52(61) {0/0(0) - 0/0(0)} mmHg
   RR: 19 (11 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
    CVP: 14 (10 - 19)mmHg
   PAP: (60 mmHg) / (31 mmHg)
   PCWP: 20 (20 - 20) mmHg
   CO/CI (Thermodilution): (5.43 L/min) / (2.8 L/min/m2)
   SVR: 766 dynes*sec/cm5
   PVR: 358 dynes*sec/cm5
   Mixed Venous O2% Sat: 57 - 57
   SV: 55 mL
   SVI: 28 mL/m2
   Total In:
                                                                  2,642 mL
                                                                  1,061 mL
   PO:
   TF:
                                                                  1,089 mL
                                                                    303 mL
   IVF:
                                                                  1,553 mL
                                                                    758 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                  1,540 mL
   Urine:
                                                                  1,720 mL
                                                                  1,540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    922 mL
                                                                   -479 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 17 cmH2O
   Plateau: 22 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 97%
   ABG: ///33/
   Ve: 7.1 L/min
   Physical Examination:
   General: intubated, sedated, NAD
   HEENT: OP clear, PERRL, EOMI
   LUNGS: bilateral basilar mild crackles
   CVS: loud systolic murmur at LUSB, no rubs , RRR
   EXT:  2+ pedal pulses, boots in place, warm
   SKIN: no rashes, stage III-IV sacral decubitus ulcer
   Labs / Radiology
   54 K/uL
   9.0 g/dL
   205 mg/dL
   1.1 mg/dL
   33 mEq/L
   3.9 mEq/L
   61 mg/dL
   103 mEq/L
   142 mEq/L
   28.5 %
   5.3 K/uL
        [image002.jpg]
                             [**2130-4-19**]  05:38 PM
                             [**2130-4-19**]  06:57 PM
                             [**2130-4-20**]  04:34 AM
                             [**2130-4-20**]  03:02 PM
                             [**2130-4-21**]  02:19 AM
                             [**2130-4-21**]  02:23 PM
                             [**2130-4-21**]  07:45 PM
                             [**2130-4-22**]  03:36 AM
                             [**2130-4-22**]  06:04 PM
                             [**2130-4-23**]  03:35 AM
   WBC
   10.8
   10.2
   8.5
   5.7
   5.3
   Hct
   31.1
   32.3
   31.9
   31
   30.9
   29.6
   28.5
   Plt
   128
   128
   128
   122
   84
   54
   Cr
   1.3
   1.3
   1.3
   1.3
   1.3
   1.3
   1.1
   TCO2
   32
   34
   Glucose
   122
   162
   120
   120
   163
   190
   205
   Other labs: PT / PTT / INR:20.0/48.3/1.8, CK / CKMB /
   Troponin-T:20/1/0.02, ALT / AST:21/25, Alk Phos / T Bili:86/2.2,
   Amylase / Lipase:68/14, Differential-Neuts:79.0 %, Band:6.0 %,
   Lymph:5.0 %, Mono:9.0 %, Eos:1.0 %, Fibrinogen:399 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:1.6 g/dL, LDH:236 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan:
   79 yo M with critical aortic stenosis now s/p valvuloplasty and still
   intubated with VAP, hypoxia and respiratory distress
   # Critical AS / systolic CHF:  s/p valvuloplasty with good effect on
   valve area. CO appears adequate currently  in the 5 range
 warm,
   appears to be perfusing peripherally.
   - check PCWPs q 8 hours ( coming down from 24 to 18 )
   - f/up any interventional cardiology recommendations
   - limit tachycardia if possible
   -continue current Lasix drip with goal I/O near negative~ 500cc to -1L
   , mainly keep CVP 10-12
   # Hypotension: Warm, lower SVR more c/w distributive picture such as
   infection / sepsis. Increased sputum production, slightly increased
   pressor requirement, but no leukocytosis or fevers. Concern for
   possible worsening PNA, though uncertain. Will continue on very broad
   coverage with [**Last Name (un) **]/ vanco & cipro / flagyl until cultures return and
   can decrease coverage.
   Less c/w cardiogenic etiology currently but central venous O2 sat in 57
   range does still suggest element of cardiogenic depression.
   - f/up sputum, blood, urine cx.
   - continuing on meropenem, vanco, and will peel back flagyl and cipro
   if cultures unrevealing
   - Continue levophed, wean as tolerated
   - I/O  goal slightly negative (~500 to negative 1L) today  / but main
   goal is to keep CVP goal ~10
   - Follow urine output, MAPS goal >65
   - repeat central venous O2 and lactate
 check PM levels
   # Respiratory failure:  Still intubated on A/C. L sided consolidation
   concerning for worse PNA versus organizing process, unclear. Amiodarone
    stopped due to concern for underlying pulmonary fibrosis
   - pneumonia treatment as above
   - wean  PEEP as tolerates
   - needs repeat ABG this afternoon
   - will rediscuss amiodarone tx with team tomorrow
   - family seems to agree with possible tracheostomy / PEG given likely
   long term vent at this time
   .
   #elevated INR:
   Elevated today in setting of heparin in cath lab. Trend coags daily.
   # thrombocytopenias:  Heme following and after [**Doctor First Name 1021**] x2 positive but
   serotonin lab f/up negative, felt that overall unlikely true HIT
   was significantly lower on 2^nd PF4 assay. Platelets trending upwards.
   Final heme note in chart.
   - continue SC heparin for ppx
   - cont to trend, recently ~stable
   - likely ok to use in cardiology procedures
   # atrial tachycardia:
   HR recently under better control, though tachycardia at times likely
   levophed and volume related
   - discussing restarting amio as above
   - try to wean levophed as possible
   .
   # sacral decubitus sore
   - f/up local wound care recs
   - continue enzymatic debridement
   ICU Care
   Nutrition: tube feeds
   Nutren Pulmonary (Full) - [**2130-4-22**] 08:00 PM 45 mL/hour
   Glycemic Control:
   Lines:  --try to place new A-line today
   Arterial Line - [**2130-4-13**] 02:47 AM
   Multi Lumen - [**2130-4-15**] 12:58 PM
   PA Catheter - [**2130-4-21**] 05:00 PM
   Cordis/Introducer - [**2130-4-21**] 05:04 PM
   Prophylaxis:
   DVT:  SC heparin, boots
   Stress ulcer:  PPI
   VAP:   bundle as above
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-04-23 11:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Pan-cultured yesterday and antibiotics broadened.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2130-4-21**] 09:00 PM
   Ciprofloxacin - [**2130-4-23**] 03:35 AM
   Metronidazole - [**2130-4-23**] 07:55 AM
   Meropenem - [**2130-4-23**] 10:00 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Fentanyl (Concentrate) - 25 mcg/hour
   Furosemide (Lasix) - 3 mg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-4-23**] 07:55 AM
   Heparin Sodium (Prophylaxis) - [**2130-4-23**] 07:55 AM
   Other medications:
   Vit B12, allopurinol, RISS, MVI, Peridex, [**Last Name (LF) 12707**], [**First Name3 (LF) 119**]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-23**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (97
   HR: 100 (97 - 101) bpm
   BP: 87/52(61) {0/0(0) - 0/0(0)} mmHg
   RR: 15 (11 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
   CVP: 14 (12 - 19)mmHg
   PAP: (60 mmHg) / (33 mmHg)
   PCWP: 18 (18 - 20) mmHg
   CO/CI (Thermodilution): (5.89 L/min) / (3.1 L/min/m2)
   SVR: 788 dynes*sec/cm5
   PVR: 312 dynes*sec/cm5
   Mixed Venous O2% Sat: 57 - 57
   SV: 60 mL
   SVI: 31 mL/m2
   Total In:
                                                                  2,642 mL
                                                                  1,590 mL
   PO:
   TF:
                                                                  1,089 mL
                                                                    482 mL
   IVF:
                                                                  1,553 mL
                                                                  1,109 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                  2,400 mL
   Urine:
                                                                  1,720 mL
                                                                  2,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    922 mL
                                                                   -810 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 96%
   ABG: ///33/
   Ve: 8.3 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), Course B/L BS.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   54 K/uL
   205 mg/dL
   1.1 mg/dL
   33 mEq/L
   3.9 mEq/L
   61 mg/dL
   103 mEq/L
   142 mEq/L
   28.5 %
   5.3 K/uL
        [image002.jpg]
                             [**2130-4-19**]  05:38 PM
                             [**2130-4-19**]  06:57 PM
                             [**2130-4-20**]  04:34 AM
                             [**2130-4-20**]  03:02 PM
                             [**2130-4-21**]  02:19 AM
                             [**2130-4-21**]  02:23 PM
                             [**2130-4-21**]  07:45 PM
                             [**2130-4-22**]  03:36 AM
                             [**2130-4-22**]  06:04 PM
                             [**2130-4-23**]  03:35 AM
   WBC
   10.8
   10.2
   8.5
   5.7
   5.3
   Hct
   31.1
   32.3
   31.9
   31
   30.9
   29.6
   28.5
   Plt
   128
   128
   128
   122
   84
   54
   Cr
   1.3
   1.3
   1.3
   1.3
   1.3
   1.3
   1.1
   TCO2
   32
   34
   Glucose
   122
   162
   120
   120
   163
   190
   205
   Other labs: PT / PTT / INR:20.0/48.3/1.8, CK / CKMB /
   Troponin-T:20/1/0.02, ALT / AST:21/25, Alk Phos / T Bili:86/2.2,
   Amylase / Lipase:68/14, Differential-Neuts:79.0 %, Band:6.0 %,
   Lymph:5.0 %, Mono:9.0 %, Eos:1.0 %, Fibrinogen:399 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:1.6 g/dL, LDH:236 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: Vanco level ([**4-22**]): 25.3
   Imaging: CXR:  Persistent B/L opacities largely unchanged.  ETT and
   lines in place.
   Microbiology: BCx:  Pending
   UCx: Pending
   Sputum Cx:  Pending
   Assessment and Plan
   79 yo M critical AS, admitted to ICU with pneumonia, course complicated
   by recurrent HAP
    1.) Shock:  Likely combination of cardiogenic and distributive (likely
   from sepsis).  Warm extremities  and adequate CO suggests that
   distributive process dominates but low mVO2 suggests cardiogenic
   component still present.
   -Will hold off on inotrope trial given CO and warm periphery and his
   recent increase in urine output without inotropes.
   -Will still try to target some diureses with lasix gtt but will try to
   keep CVP at 12.
   -Will follow up on cultures and leave on broadend abx for now
   -LFTs, amylase/lipase not suggestive of an abdominal process.
   -Continue to trend PCWP today.
    2.)  AS:
   -Valve area increased post valvuloplasty, however, not clear that this
   is the cause of the hemodynamic improvement seen this AM (36-48 hours
   after valvuloplasty)
    3.) Repiratory Failure: Secondary to pneumonia and large effusion.
   -PSV trial today
   -Will wean PEEP as able.
    4.) Atrial tachycardia:  Currently off all rate control agents.
   Amiodarone if needed.
   Rest of plan per resident note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-4-22**] 08:00 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-4-13**] 02:47 AM
   Multi Lumen - [**2130-4-15**] 12:58 PM
   PA Catheter - [**2130-4-21**] 05:00 PM
   Cordis/Introducer - [**2130-4-21**] 05:04 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   MICU Attending Addendum:
   This afternoon
s wedge is 18 and lasix appropriately held for now as
   this is great filling pressure given that he
s still on pressors. His
   PAP is still high, likely due to pulm vasc remodeling and
   vasoconstriction in areas of lungs affected by his considerable
   pneumonia. Given his age, aortic stenosis, cardiac function, and
   severely abnl lungs, I suspect if plan is to pursue aggressive care
   that he will need trache.
   [**First Name8 (NamePattern2) 711**] [**Last Name (NamePattern1) 712**], MD

2130-04-24 07:01:00 Physician Resident Progress Note
Chief Complaint:
   79yo M with critical AS now s/p valvuloplasty and still intubated with
   VAP, hypoxia and respiratory distress
   24 Hour Events:
   - Checking hemodynamics Q8hr, CVP decreasing to goal [**10-17**], PCWP down
   [**Last Name (un) 4774**] 20 -> 16, SVR in 700s, CO remains 4.9-> 5 with UOP of avg 200/hr
   but then pressor requirement increased (levophed 0.1) so lasix gtt
   decreased/off so by morning, patient down to 0.05 levophed, CVP 12,
   wedge 20-21. Lasix gtt resumed. Net fluid balance 1L out overnight
   - Weaned down on PEEP from 10-> 8, tolerated PS for 3 hours but then
   got tachypneic, uncomfortable, increased pressor requirement
   - unable to replace a-line
   - CT [**Doctor First Name 91**] came by to check in, will talk with attending about candidacy
   for surgery next week
   Allergies:
   No Known Drug Allergies
   Thrombocytopeni
   Last dose of Antibiotics:
   Meropenem - [**2130-4-23**] 04:33 PM
   Vancomycin - [**2130-4-23**] 08:53 PM
   Metronidazole - [**2130-4-24**] 12:31 AM
   Ciprofloxacin - [**2130-4-24**] 03:30 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-4-23**] 07:55 AM
   Midazolam (Versed) - [**2130-4-23**] 02:22 PM
   Fentanyl - [**2130-4-23**] 02:22 PM
   Heparin Sodium (Prophylaxis) - [**2130-4-23**] 08:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-24**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.9
   HR: 103 (98 - 108) bpm
   BP: 87/52(61) {0/0(0) - 0/0(0)} mmHg
   RR: 20 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
    CVP: 14 (10 - 15)mmHg
   PAP: (52 mmHg) / (33 mmHg)
   PCWP: 20 (16 - 20) mmHg
   CO/CI (Thermodilution): (5.86 L/min) / (3 L/min/m2)
   CO/CI (Fick): (6.2 L/min) / (3.2 L/min/m2)
   SVR: 1,066 dynes*sec/cm5
   PVR: 263 dynes*sec/cm5
   Mixed Venous O2% Sat: 63 - 63
   SV: 56 mL
   SVI: 29 mL/m2
   Total In:
                                                                  3,269 mL
                                                                    800 mL
   PO:
   TF:
                                                                  1,080 mL
                                                                    315 mL
   IVF:
                                                                  2,189 mL
                                                                    485 mL
   Blood products:
   Total out:
                                                                  4,400 mL
                                                                    790 mL
   Urine:
                                                                  4,400 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,131 mL
                                                                     10 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 331 (331 - 331) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 77
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/61/39/37/11
   Ve: 7.9 L/min
   PaO2 / FiO2: 98
   Physical Examination
   General: intubated, sedated, NAD
   HEENT: anicteric, pupils equal
   LUNGS: L>R rales with bronchial breath sounds on L
   CVS: loud systolic murmur at LUSB, no rubs , RRR
   EXT:  2+ pedal pulses, boots in place, warm feet, cooler hands
   SKIN: no rashes or jaundice, +sacral decubitus ulcer
   Lines/tubes/drains LIJ, R cordis, L a line
 mild exit site erythema no
   purulence. Foley with yellow urine.
   Labs / Radiology
   47 K/uL
   8.6 g/dL
   171 mg/dL
   1.0 mg/dL
   37 mEq/L
   3.7 mEq/L
   55 mg/dL
   103 mEq/L
   142 mEq/L
   26.8 %
   5.2 K/uL
        [image002.jpg]
                             [**2130-4-20**]  03:02 PM
                             [**2130-4-21**]  02:19 AM
                             [**2130-4-21**]  02:23 PM
                             [**2130-4-21**]  07:45 PM
                             [**2130-4-22**]  03:36 AM
                             [**2130-4-22**]  06:04 PM
                             [**2130-4-23**]  03:35 AM
                             [**2130-4-23**]  03:25 PM
                             [**2130-4-24**]  04:13 AM
                             [**2130-4-24**]  04:18 AM
   WBC
   8.5
   5.7
   5.3
   4.7
   5.2
   Hct
   31.9
   31
   30.9
   29.6
   28.5
   28.1
   26.8
   Plt
   128
   122
   84
   54
   57
   47
   Cr
   1.3
   1.3
   1.3
   1.3
   1.1
   1.1
   1.0
   TCO2
   34
   41
   Glucose
   120
   120
   163
   190
   205
   173
   171
   Other labs: PT / PTT / INR:20.5/49.5/1.9, CK / CKMB /
   Troponin-T:20/1/0.02, ALT / AST:21/25, Alk Phos / T Bili:86/2.2,
   Amylase / Lipase:68/14, Differential-Neuts:79.0 %, Band:6.0 %,
   Lymph:5.0 %, Mono:9.0 %, Eos:1.0 %, Fibrinogen:399 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:1.6 g/dL, LDH:236 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   CXR decreased R sided infiltrate, ET tube good position, LIJ and R swan
   in position
   Micro
   [**4-22**] blood cx NGTD
   [**4-22**] urine cx 10-100k yeast
   [**4-22**] sputum yeast
   All other micro
 none new
   Assessment and Plan
   79 yo M with critical aortic stenosis now s/p valvuloplasty and still
   intubated with VAP, hypoxia and respiratory distress
   # Critical AS / systolic CHF:  s/p valvuloplasty with good effect on
   valve area. CO appears adequate currently in the 5 range
 warm, appears
   to be perfusing peripherally.
   - checking  PCWPs q8 hours ( coming down from 24 to 20 now )
   - f/up any interventional cardiology recommendations
   - limit tachycardia if possible
   -continue current Lasix drip with goal I/O near negative~ 500cc to -1L
   , mainly keep CVP 10-12
   # Hypotension:
   Pressor requirements are decreased today
 increased slightly yesterday
   in setting of lower wedges, remains preload sensitive given his AS.
   Warm legs and lower SVRs more consistent with distributive etiology
   (sepsis), though lower CVO2 suggests cardiogenic component. Evidence
   for infection is fairly limited
 no fever, leukocytosis, or recent
   positive cultures
 though he has had more airway secretions over the
   weekend raising possibility of tracheobronchitis versus pna. L sacral
   wound does not appear infected.
   - conservative diuresis, keeping CVPs 10-12
   - Continue Meropenem (currently d16),  Will  d/c cipro and d/c
   vancomycin
 Staph should have grown if present. Would also DC
   metronidazole, and if remains afebrile/no leukocytosis would also DC
   [**Last Name (un) **] in [**1-7**] days.
   - send off repeat sputum Cx  today given some sputum discolorations
   overnight
   - Continue levophed, wean as tolerated
   - Follow urine output, MAPS goal >65
   - repeat central venous O2 and lactate
 check PM levels
   # Respiratory failure:  Decreased O2 requirements, now on PSV trial.
   Has persistent pulm edema, improved today
    L sided consolidation concerning for PNA versus organizing process,
   unclear.
   - pneumonia treatment as above / tapering now to just meropenem
   coverage
   - wean  PEEP as tolerates , now at 8 from 10
   - diuresis as above
   - family seems to agree with possible tracheostomy / PEG given likely
   long term vent at this time
   # thrombocytopenias:
   Plts down again significantly over the weekend in the setting of recent
   large heparin load for valvuloplasty and recently starting
   ciprofloxacin and metronidazole. Previous work up for HIT thought false
   + PF4 antibody (decreased titer on repeat, negative serotonin release
   assay). DDX antibiotics, heparin, infection. Restarted SQ heparin on
   4.13 (6d ago)
 4T score ~5, intermediate prob. No clinical evidence
   for new clot
   - discuss resending PF4 with heme
   - holding heparin for now, using only pneumoboots for PPX for now
   - streamlining antibiotics as above
   - follow [**Hospital1 **] CBC
   .
   #Elevated INR:  Chronic issue.  Large heparin bolus with recent
   procedure which elevated coags recently.
   - hold off on additional Vit K for now
   .
   #Atrial tachycardia:
   HR recently under better control, though tachycardia at times likely
   levophed and volume related
   - holding Amiodarone Rx for now given concern for underlying fibrosis
   changes
   - try to wean levophed as possible
   .
   # sacral decubitus sore
   - f/up local wound care recs, plastics eval appreciated
   - continue enzymatic debridement
   .
   #hemodynamic monitoring:
   - will plan to replace A-line today as current line not working
   appropriately
   ICU Care
   Nutrition: tubefeeds, NPO after MN for possible PEG
   Nutren Pulmonary (Full) - [**2130-4-23**] 06:13 PM 45 mL/hour
   Glycemic Control:  SSI
   Lines:
   Arterial Line - [**2130-4-13**] 02:47 AM
   Multi Lumen - [**2130-4-15**] 12:58 PM
   PA Catheter - [**2130-4-21**] 05:00 PM
   Cordis/Introducer - [**2130-4-21**] 05:04 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer:  ppi
   VAP:  daily wakeup, mouthcare
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2130-04-24 11:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79 yo M with history of AS, pulmonary fibrosis who initially presented
   with pneumonia, now with prolonged hospital stay c/b septic and
   cardiogenic shock
   24 Hour Events:
    - trial psv terminated [**2-7**] tachypnea, retry this am
    -
   Allergies:
   No Known Drug Allergies
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2130-4-23**] 08:53 PM
   Ciprofloxacin - [**2130-4-24**] 03:30 AM
   Metronidazole - [**2130-4-24**] 08:00 AM
   Meropenem - [**2130-4-24**] 09:58 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2130-4-23**] 02:22 PM
   Fentanyl - [**2130-4-24**] 07:30 AM
   Pantoprazole (Protonix) - [**2130-4-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-4-24**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-24**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.9
   HR: 96 (88 - 108) bpm
   BP: 77/46(54) {77/46(54) - 77/46(54)} mmHg
   RR: 28 (16 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
   CVP: 13 (10 - 15)mmHg
   PAP: (62 mmHg) / (31 mmHg)
   PCWP: 21 (16 - 21) mmHg
   CO/CI (Thermodilution): (6.17 L/min) / (3.2 L/min/m2)
   CO/CI (Fick): (6.2 L/min) / (3.2 L/min/m2)
   SVR: 726 dynes*sec/cm5
   PVR: 246 dynes*sec/cm5
   Mixed Venous O2% Sat: 63 - 63
   SV: 67 mL
   SVI: 35 mL/m2
   Total In:
                                                                  3,269 mL
                                                                  1,458 mL
   PO:
   TF:
                                                                  1,080 mL
                                                                    482 mL
   IVF:
                                                                  2,189 mL
                                                                    915 mL
   Blood products:
   Total out:
                                                                  4,400 mL
                                                                  1,110 mL
   Urine:
                                                                  4,400 mL
                                                                  1,110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,131 mL
                                                                    348 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 315 (315 - 331) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 77
   PIP: 17 cmH2O
   Plateau: 18 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 96%
   ABG: 7.42/61/39/37/11
   Ve: 7.6 L/min
   PaO2 / FiO2: 98
   Physical Examination
   General Appearance: intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Decreased
   Labs / Radiology
   8.6 g/dL
   47 K/uL
   171 mg/dL
   1.0 mg/dL
   37 mEq/L
   3.7 mEq/L
   55 mg/dL
   103 mEq/L
   142 mEq/L
   26.8 %
   5.2 K/uL
        [image002.jpg]
                             [**2130-4-20**]  03:02 PM
                             [**2130-4-21**]  02:19 AM
                             [**2130-4-21**]  02:23 PM
                             [**2130-4-21**]  07:45 PM
                             [**2130-4-22**]  03:36 AM
                             [**2130-4-22**]  06:04 PM
                             [**2130-4-23**]  03:35 AM
                             [**2130-4-23**]  03:25 PM
                             [**2130-4-24**]  04:13 AM
                             [**2130-4-24**]  04:18 AM
   WBC
   8.5
   5.7
   5.3
   4.7
   5.2
   Hct
   31.9
   31
   30.9
   29.6
   28.5
   28.1
   26.8
   Plt
   128
   122
   84
   54
   57
   47
   Cr
   1.3
   1.3
   1.3
   1.3
   1.1
   1.1
   1.0
   TCO2
   34
   41
   Glucose
   120
   120
   163
   190
   205
   173
   171
   Other labs: PT / PTT / INR:20.5/49.5/1.9, CK / CKMB /
   Troponin-T:20/1/0.02, ALT / AST:21/25, Alk Phos / T Bili:86/2.2,
   Amylase / Lipase:68/14, Differential-Neuts:79.0 %, Band:6.0 %,
   Lymph:5.0 %, Mono:9.0 %, Eos:1.0 %, Fibrinogen:399 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:1.6 g/dL, LDH:236 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   79 yo M with history of AS, pulmonary fibrosis who initially presented
   with pneumonia, now with prolonged hospital stay c/b septic and
   cardiogenic shock
   1. HoTN: likely mixed cardiogenic and septic picture, currently most
   likely cardiogenic with low EF, AS, preload dependence.  Elevated PCWP
   with volume overload and he may be overdistended impairing EF.
    - Will diurese and aim for CVP 10-12, PCWP 18
   2. ? infection: sputum culture remains negative todate
    - will d/c vancomycin, flagyl and cipro
    - day 16 meropenem
    - will obtain repeat sputum cultures today, if negative will d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
   tomorrow
   3. Respiratory failure: likely related to volume overload but has
   underlying recovering pneumonia as well as possible history of
   pulmonary fibrosis
    - cont diuresis for now
    - cont PSV and attempt to wean vent as tolerated
   4. Thrombocytopenia: likely medication related, but will cont to
   follow, now stopping vancomycin
   5. Atrial tachycardia:
   - cont lopressor
    - holding amiodarone given possible underlying lung disease
   6. Sacral decubitus ulcer: per nursing care appears more inflammed,
   will have plastic surgery attempt
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-4-23**] 06:13 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-4-13**] 02:47 AM
   Multi Lumen - [**2130-4-15**] 12:58 PM
   PA Catheter - [**2130-4-21**] 05:00 PM
   Cordis/Introducer - [**2130-4-21**] 05:04 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   update them and discuss goals of care.  Pt remains full code at this
   time.
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2130-04-25 07:19:00 Physician Resident Progress Note
Chief Complaint:
   79yo M with critical AS now s/p valvuloplasty and still intubated with
   VAP, hypoxia and respiratory distress
   24 Hour Events:
   - changed A line over wire
   - plts dropped to 47, resent pf4, DCd heparin
   - 2 units FFP and Vit K given recent drops in coags
   - will need to take out Swan today
   - today he will go w/IP to get PEG and trach
   Allergies:
   No Known Drug Allergies
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2130-4-23**] 08:53 PM
   Ciprofloxacin - [**2130-4-24**] 03:30 AM
   Metronidazole - [**2130-4-24**] 08:00 AM
   Meropenem - [**2130-4-25**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 40 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Furosemide (Lasix) - 1 mg/hour
   Norepinephrine - 0.11 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-4-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-4-24**] 08:00 AM
   Midazolam (Versed) - [**2130-4-24**] 02:58 PM
   Fentanyl - [**2130-4-24**] 03:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-25**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98.1
   HR: 100 (88 - 105) bpm
   BP: 77/46(54) {77/46(54) - 77/46(54)} mmHg
   RR: 22 (17 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
    CVP: 9 (9 - 15)mmHg
   PAP: (53 mmHg) / (26 mmHg)
   PCWP: 20 (18 - 23) mmHg
   CO/CI (Thermodilution): (5.39 L/min) / (2.8 L/min/m2)
   CO/CI (Fick): (90.9 L/min) / (47.1 L/min/m2)
   SVR: 876 dynes*sec/cm5
   PVR: 267 dynes*sec/cm5
   Mixed Venous O2% Sat: 67 - 96
   SV: 54 mL
   SVI: 28 mL/m2
   Total In:
                                                                  2,852 mL
                                                                    669 mL
   PO:
   TF:
                                                                  1,080 mL
                                                                    329 mL
   IVF:
                                                                  1,711 mL
                                                                    341 mL
   Blood products:
   Total out:
                                                                  3,870 mL
                                                                  1,470 mL
   Urine:
                                                                  3,570 mL
                                                                  1,470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,018 mL
                                                                   -801 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 348 (315 - 348) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   Plateau: 26 cmH2O
   Compliance: 23.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.48/54/84.[**Numeric Identifier 117**]/38/14
   Ve: 7.5 L/min
   PaO2 / FiO2: 210
   Physical Examination:
   General: intubated, sedated, NAD
   HEENT: anicteric, pupils equal
   LUNGS: L>R rales with rhonchorous breath sounds over apices , otherwise
   decreased sounds at left base
   CVS: loud systolic murmur at LUSB, no rubs , RRR
   EXT:  2+ pedal pulses, boots in place, warm
   SKIN: no rashes or jaundice, +sacral decubitus ulcer
   Lines/tubes/drains LIJ, R cordis, L a line
   Labs / Radiology
   53 K/uL
   9.9 g/dL
   147 mg/dL
   0.9 mg/dL
   38 mEq/L
   4.0 mEq/L
   49 mg/dL
   104 mEq/L
   146 mEq/L
   30.7 %
   9.9 K/uL
        [image002.jpg]
                             [**2130-4-22**]  03:36 AM
                             [**2130-4-22**]  06:04 PM
                             [**2130-4-23**]  03:35 AM
                             [**2130-4-23**]  03:25 PM
                             [**2130-4-24**]  04:13 AM
                             [**2130-4-24**]  04:18 AM
                             [**2130-4-24**]  03:45 PM
                             [**2130-4-24**]  03:59 PM
                             [**2130-4-25**]  04:40 AM
                             [**2130-4-25**]  04:48 AM
   WBC
   5.7
   5.3
   4.7
   5.2
   6.6
   9.9
   Hct
   29.6
   28.5
   28.1
   26.8
   29.6
   30.7
   Plt
   84
   54
   57
   47
   47
   53
   Cr
   1.3
   1.3
   1.1
   1.1
   1.0
   1.0
   0.9
   TCO2
   41
   37
   41
   Glucose
   163
   190
   205
   173
   171
   183
   147
   Other labs: PT / PTT / INR:20.5/43.3/1.9, CK / CKMB /
   Troponin-T:20/1/0.02, ALT / AST:21/25, Alk Phos / T Bili:86/2.2,
   Amylase / Lipase:68/14, Differential-Neuts:79.0 %, Band:6.0 %,
   Lymph:5.0 %, Mono:9.0 %, Eos:1.0 %, Fibrinogen:399 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:1.6 g/dL, LDH:236 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan:
   79 yo M with critical aortic stenosis now s/p valvuloplasty and still
   intubated with VAP, hypoxia and respiratory distress
   # Critical AS / systolic CHF:  s/p valvuloplasty with good effect on
   valve area (.4
.9cm2). CO appears adequate currently in the 5 range
   warm, appears to be perfusing peripherally.  Overnight he had improved
   MAPs. PCWP still averaging 20 now.
   - checking  PCWPs q8 hours ( coming down from 24 to 20 now )
   - f/up any interventional cardiology recommendations
   - limit tachycardia if possible
   -continue current Lasix drip with goal I/O -1L which he achieved
   overnight , keeping  CVP goal near [**10-17**]
   # Hypotension: Pressor requirements increased today slightly in setting
   of needing more sedation overnight. Wedges remain in 20 range, he still
   remains quite preload sensitive given his AS. Warm legs and lower SVRs
   more consistent with distributive etiology (sepsis), though lower CVO2
   suggests cardiogenic component.  Currently, his evidence for infection
   is fairly limited
with no new fevers, leukocytosis, or recent positive
   cultures
 though he has had more airway secretions over the weekend
   raising possibility of tracheobronchitis versus PNA so some antibiotics
   were continued. L sacral wound does not appear infected.
   .
   - conservative diuresis, keeping CVPs 10-12  ( goal I/o neg 500 to neg
   1L if tolerates)
   - Continue Meropenem (currently d17),  yesterday team  d/c cipro, d/c
   Flagyl & d/c vancomycin  (as staph should have grown if present).
   - consider  d/c Meropenem if remains afebrile and with no e/o
   leukocytosis
   - f/up recent sputum Cx
   - Continue levophed, wean as tolerated
   - Follow urine output, MAPS goal >65
   - repeat central venous O2 and lactate
 check PM levels
   # Respiratory failure:  Decreasing O2 requirements, now on PSV trial.
   Has persistent pulm edema, improved today
    L sided consolidation concerning for PNA versus organizing process,
   unclear.
   - pneumonia treatment as above / tapering now to just meropenem
   coverage
   - wean  PEEP as tolerates , now at 8 from 10
   - diuresis as above
   - family seems to agree with possible tracheostomy / PEG given likely
   long term vent at this time
   # thrombocytopenias:
   Plts down again significantly over the weekend in the setting of recent
   large heparin load for valvuloplasty and recently starting
   ciprofloxacin and metronidazole. Previous work up for HIT thought false
   + PF4 antibody (decreased titer on repeat, negative serotonin release
   assay). DDX antibiotics, heparin, infection. Restarted SQ heparin on
   4.13 (6d ago)
 4T score ~5, intermediate prob. No clinical evidence
   for new clots.
   .
   - discussed w/heme and plan was to resend PF4
f/up results
   - holding heparin for now, using only pneumoboots for PPX for now
   - will get Vit K and FFP before PEG and trach today
   - streamlining antibiotics as above
   - follow [**Hospital1 **] CBC
   .
   #Elevated INR /coags :  Chronic issue.  Large heparin bolus with recent
   procedure which elevated coags recently.
   - will give additional Vit K  and FFP today before procedures
   .
   #Atrial tachycardia:
   - HR recently under better control, though tachycardia at times likely
   Levophed and volume related
   - holding Amiodarone Rx for now given concern for underlying fibrosis
   changes
   - try to wean levophed as possible
   .
   # sacral decubitus sore
   - f/up local wound care recs, plastics eval appreciated
   - continue enzymatic debridement
   .
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-4-24**] 04:26 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2130-4-13**] 02:47 AM
   Multi Lumen - [**2130-4-15**] 12:58 PM
   PA Catheter - [**2130-4-21**] 05:00 PM
   Cordis/Introducer - [**2130-4-21**] 05:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-04-25 09:44:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - A line changed
   - Plts decreased to 47, heparin held for HIT
   - 2 units of FFP ordered for trach/Peg today; getting Vit K
   Allergies:
   No Known Drug Allergies
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2130-4-23**] 08:53 PM
   Ciprofloxacin - [**2130-4-24**] 03:30 AM
   Metronidazole - [**2130-4-24**] 08:00 AM
   Meropenem - [**2130-4-25**] 09:09 AM
   Infusions:
   Fentanyl (Concentrate) - 40 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Furosemide (Lasix) - 1 mg/hour
   Norepinephrine - 0.14 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2130-4-24**] 02:58 PM
   Pantoprazole (Protonix) - [**2130-4-25**] 07:50 AM
   Fentanyl - [**2130-4-25**] 07:52 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-25**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.9
   HR: 113 (93 - 113) bpm
   BP: 77/46(54) {0/0(0) - 0/0(0)} mmHg
   RR: 17 (16 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.7 kg (admission): 77.4 kg
   Height: 69 Inch
   CVP: 12 (9 - 15)mmHg
   PAP: (48 mmHg) / (29 mmHg)
   PCWP: 20 (18 - 23) mmHg
   CO/CI (Thermodilution): (6.86 L/min) / (3.6 L/min/m2)
   CO/CI (Fick): (90.9 L/min) / (47.1 L/min/m2)
   SVR: 735 dynes*sec/cm5
   PVR: 233 dynes*sec/cm5
   Mixed Venous O2% Sat: 67 - 96
   SV: 69 mL
   SVI: 36 mL/m2
   Total In:
                                                                  2,852 mL
                                                                    633 mL
   PO:
   TF:
                                                                  1,080 mL
   IVF:
                                                                  1,711 mL
                                                                    573 mL
   Blood products:
   Total out:
                                                                  3,870 mL
                                                                  1,810 mL
   Urine:
                                                                  3,570 mL
                                                                  1,810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,018 mL
                                                                 -1,177 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 348 (348 - 348) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   Compliance: 28.2 cmH2O/mL
   SpO2: 97%
   ABG: 7.48/54/84.[**Numeric Identifier 117**]/38/14
   Ve: 6.9 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Coarse b/l ant : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   53 K/uL
   147 mg/dL
   0.9 mg/dL
   38 mEq/L
   4.0 mEq/L
   49 mg/dL
   104 mEq/L
   146 mEq/L
   30.7 %
   9.9 K/uL
        [image002.jpg]
                             [**2130-4-22**]  03:36 AM
                             [**2130-4-22**]  06:04 PM
                             [**2130-4-23**]  03:35 AM
                             [**2130-4-23**]  03:25 PM
                             [**2130-4-24**]  04:13 AM
                             [**2130-4-24**]  04:18 AM
                             [**2130-4-24**]  03:45 PM
                             [**2130-4-24**]  03:59 PM
                             [**2130-4-25**]  04:40 AM
                             [**2130-4-25**]  04:48 AM
   WBC
   5.7
   5.3
   4.7
   5.2
   6.6
   9.9
   Hct
   29.6
   28.5
   28.1
   26.8
   29.6
   30.7
   Plt
   84
   54
   57
   47
   47
   53
   Cr
   1.3
   1.3
   1.1
   1.1
   1.0
   1.0
   0.9
   TCO2
   41
   37
   41
   Glucose
   163
   190
   205
   173
   171
   183
   147
   Other labs: PT / PTT / INR:20.5/43.3/1.9, CK / CKMB /
   Troponin-T:20/1/0.02, ALT / AST:21/25, Alk Phos / T Bili:86/2.2,
   Amylase / Lipase:68/14, Differential-Neuts:79.0 %, Band:6.0 %,
   Lymph:5.0 %, Mono:9.0 %, Eos:1.0 %, Fibrinogen:399 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:1.6 g/dL, LDH:236 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR - Bilateral patchy infiltrates with LLL opacity
   (atelectasis vs effusion), stable.
   Microbiology: Sputum/Urine - yeast [**4-22**].
   Assessment and Plan
   79 yo M with history of AS, pulmonary fibrosis who initially presented
   with pneumonia, now with prolonged hospital stay c/b septic and
   cardiogenic shock.
    #. HoTN: likely mixed cardiogenic and septic picture, currently most
   likely cardiogenic with low EF, AS, preload dependence.  Elevated PCWP
   with volume overload and he may be overdistended impairing EF.
   Increased pressor requirement overnight in setting of increased
   sedation.
   - Will diurese and aim for CVP 10-12, on lasix gtt
   - D/c PA line today
   - Wean levophed as tolerated
   #. ID: sputum culture remains negative todate
    - D/c vancomycin, flagyl and cipro [**4-24**]
    - D/c meropenem today (completed 17 day course)
    - Yeast in sputum / urine. S/p foley change. Glucan 49. No plans to
   treat for now.
   #. Respiratory failure: likely related to volume overload but has
   underlying recovering pneumonia as well as possible history of
   pulmonary fibrosis
    - Cont diuresis for now
    - Trach today with FFP and Vit K
    - Cont PSV trials and attempt to wean vent as tolerated after trach
   #. Thrombocytopenia: likely medication related, but will cont to
   follow, now off vancomycin
   - F/U PF4, hold heparin until HIT Ab is back
   - Trend platelet counts [**Hospital1 **]
   #. Atrial tachycardia: Stable
    - No BB given pressor requirement
    - Holding amiodarone given possible underlying lung disease
   #. Sacral decubitus ulcer: per nursing care appears more inflammed,
   will have plastic surgery attempt debridement, wound care recs
   #. Critical AS: S/p valvuloplasty [**4-21**]. No immediate plan for AVR. CT
   [**Doctor First Name 91**] following.
   #. FEN: PEG today.
   #. GOC: Full code, but family aware of poor prognosis.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-4-13**] 02:47 AM
   Multi Lumen - [**2130-4-15**] 12:58 PM
   PA Catheter - [**2130-4-21**] 05:00 PM
   Cordis/Introducer - [**2130-4-21**] 05:04 PM
   Prophylaxis:
   DVT: Boots(?HIT)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2130-04-26 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PA CATHETER - STOP [**2130-4-25**] 06:15 PM
   - got trach & PEG tube
   - HCts stable despite small hematoma around trach
   - was negative 1.7L at MN and CVP dip to [**6-13**] so tapered lasix and CVP
   up to [**10-17**], then dropped CVP and mild sinus tachy so gave back 250cc
   - PM labs hypernatremic still, can add free water to TFs today
   - no feeds or meds x 24 hrs as of 3pm [**4-25**]
   - heparin Abs / PF4 postive from [**4-24**]
   - heme came by and said will need to wait for OD from the PF4 test that
   just came back positive, won't know until tomorrow and will come back
   with more firm advice/note then.
   - sent off serotonin release assay per heme recs
   - started on Argatroban overnight
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2130-4-23**] 08:53 PM
   Ciprofloxacin - [**2130-4-24**] 03:30 AM
   Metronidazole - [**2130-4-24**] 08:00 AM
   Meropenem - [**2130-4-25**] 09:09 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Argatroban - 0.5 mcg/Kg/min
   Norepinephrine - 0.18 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-4-25**] 07:50 AM
   Vecuronium - [**2130-4-25**] 01:50 PM
   Midazolam (Versed) - [**2130-4-25**] 02:35 PM
   Fentanyl - [**2130-4-26**] 04:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-26**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 121 (98 - 122) bpm
   BP: 77/46(54) {0/0(0) - 0/0(0)} mmHg
   RR: 14 (14 - 23) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 88.9 kg (admission): 77.4 kg
   Height: 69 Inch
    CVP: 11 (7 - 165)mmHg
   PAP: (58 mmHg) / (27 mmHg)
   PCWP: 23 (23 - 23) mmHg
   CO/CI (Thermodilution): (5.07 L/min) / (2.6 L/min/m2)
   SVR: -1,215 dynes*sec/cm5
   SV: 43 mL
   SVI: 22 mL/m2
   Total In:
                                                                  1,513 mL
                                                                    766 mL
   PO:
   TF:
   IVF:
                                                                  1,208 mL
                                                                    766 mL
   Blood products:
                                                                    245 mL
   Total out:
                                                                  3,255 mL
                                                                    440 mL
   Urine:
                                                                  3,255 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,742 mL
                                                                    326 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 5
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 98%
   ABG: ///37/
   Ve: 8.1 L/min
   Physical Examination
   General: intubated, sedated, NAD
   HEENT: anicteric, pupils equal, trach tube in place
   LUNGS: rhonchorous breath sounds over apices
   CVS: loud systolic murmur at LUSB, no rubs , RRR
   ABD: PEG tube in place
   EXT:  2+ pedal pulses, boots in place, warm
   SKIN: no rashes or jaundice, +sacral decubitus ulcer
   Lines/tubes/drains LIJ, L a line
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   54 K/uL
   8.6 g/dL
   121 mg/dL
   0.9 mg/dL
   37 mEq/L
   4.0 mEq/L
   44 mg/dL
   106 mEq/L
   149 mEq/L
   26.7 %
   7.1 K/uL
        [image002.jpg]
                             [**2130-4-23**]  03:25 PM
                             [**2130-4-24**]  04:13 AM
                             [**2130-4-24**]  04:18 AM
                             [**2130-4-24**]  03:45 PM
                             [**2130-4-24**]  03:59 PM
                             [**2130-4-25**]  04:40 AM
                             [**2130-4-25**]  04:48 AM
                             [**2130-4-25**]  03:29 PM
                             [**2130-4-25**]  05:00 PM
                             [**2130-4-26**]  03:09 AM
   WBC
   4.7
   5.2
   6.6
   9.9
   4.6
   7.1
   Hct
   28.1
   26.8
   29.6
   30.7
   26.7
   27.1
   26.7
   Plt
   57
   47
   47
   53
   53
   54
   Cr
   1.1
   1.0
   1.0
   0.9
   0.9
   0.9
   TCO2
   41
   37
   41
   Glucose
   173
   171
   183
   147
   138
   121
   Other labs: PT / PTT / INR:31.0/94.8/3.1, CK / CKMB /
   Troponin-T:20/1/0.02, ALT / AST:21/25, Alk Phos / T Bili:86/2.2,
   Amylase / Lipase:68/14, Differential-Neuts:79.0 %, Band:6.0 %,
   Lymph:5.0 %, Mono:9.0 %, Eos:1.0 %, Fibrinogen:399 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:1.6 g/dL, LDH:236 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   79 yo M with critical aortic stenosis now s/p valvuloplasty and still
   intubated with VAP, hypoxia and respiratory distress  with plan for
   trach/PEG today and awaiting AVR.
   # Critical AS / systolic CHF:  s/p valvuloplasty with good effect on
   valve area (.4
.9cm2). CO appears adequate currently in the 5 range
   warm, appears to be perfusing peripherally.  Overnight he had improved
   MAPs. PCWP still averaging 20 now.
   - checking  PCWPs q8 hours ( coming down from 24 to 20 now )
   - pull swan today
   - f/up CT surgery regarding possible date for AVR
   - limit tachycardia if possible
   -continue current Lasix drip with goal I/O -1L which he achieved
   overnight , keeping  CVP goal near [**10-17**]
   # Hypotension: Pressor requirements increased today slightly in setting
   of needing more sedation overnight. Wedges remain in 20 range, he still
   remains quite preload sensitive given his AS. Warm legs and lower SVRs
   more consistent with distributive etiology (sepsis), though lower CVO2
   suggests cardiogenic component.  No evidence of  new septic physiology.
   No fevers off other antbiotics
   - conservative diuresis, keeping CVPs 10-12  ( goal I/o neg 500 to neg
   1L if tolerates)
   - DC meropenem today
   - consider  d/c Meropenem if remains afebrile and with no e/o
   leukocytosis
   - f/up recent sputum Cx
   - Continue levophed, wean as tolerated
   - Follow urine output, MAPS goal >65
   - repeat central venous O2 and lactate
 check PM levels
   # Respiratory failure:  s/p trach/PEG yesterday
   - continue to wean while on trach
   - diuresis as above with goal 1L out
   # thrombocytopenias:
   Plts down again significantly over the weekend in the setting of recent
   large heparin load for valvuloplasty and recently starting
   ciprofloxacin and metronidazole. Previous work up for HIT thought false
   + PF4 antibody (decreased titer on repeat, negative serotonin release
   assay). DDX antibiotics, heparin, infection. Restarted SQ heparin on
   4.13 (6d ago)
 4T score ~5, intermediate prob. No clinical evidence
   for new clots.
   - heme following
   - f/u resent PF4
   - holding heparin for now, using only pneumoboots for PPX for now
   - will get Vit K and FFP before PEG and trach today
   - streamlining antibiotics as above
   - follow [**Hospital1 **] CBC
   .
   #Elevated INR /coags :  Chronic issue.  Large heparin bolus with recent
   procedure which elevated coags recently.
   - will give additional Vit K  and FFP today before procedures
   .
   #Atrial tachycardia:  No tachycardia off of amiodarone
   - HR recently under better control, though tachycardia at times likely
   Levophed and volume related
   - try to wean levophed as possible
   .
   # sacral decubitus sore : looking slightly worse per nursing
   - f/up local wound care recs, plastics eval appreciated
   - continue enzymatic debridement
   - call plastics for reeval today
   ICU Care
   Nutrition:
   Glycemic Control:  HISS
   Lines:
   Arterial Line - [**2130-4-13**] 02:47 AM
   Multi Lumen - [**2130-4-15**] 12:58 PM
   Cordis/Introducer - [**2130-4-21**] 05:04 PM
   Prophylaxis:
   DVT: argatroban gtt
   Stress ulcer: PPI
   VAP:  VAP bundle, on restraints as intubated
   Comments:
   Communication:  Comments: Wife as primary communicator
   Code status: Full code
   Disposition: ICU

2130-04-26 10:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Trach and Peg
   - Small hematoma around trach with oozing around Peg - Hct stable
   - Peg study this am per IP
   - Decreased lasix gtt given low CVPs in setting of aggressive diuresis;
   given back 500cc NS for tachycardia
   - Hypernatremia - started on [**1-7**] NS as not able to use PEG yet
   - HIT +, but awaiting further studies for confirmation; argatroban
   started
   Allergies:
   No Known Drug Allergies
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2130-4-23**] 08:53 PM
   Ciprofloxacin - [**2130-4-24**] 03:30 AM
   Metronidazole - [**2130-4-24**] 08:00 AM
   Meropenem - [**2130-4-25**] 09:09 AM
   Infusions:
   Argatroban - 0.5 mcg/Kg/min
   Norepinephrine - 0.11 mcg/Kg/min
   Other ICU medications:
   Vecuronium - [**2130-4-25**] 01:50 PM
   Midazolam (Versed) - [**2130-4-25**] 02:35 PM
   Fentanyl - [**2130-4-26**] 04:47 AM
   Pantoprazole (Protonix) - [**2130-4-26**] 08:23 AM
   Morphine Sulfate - [**2130-4-26**] 08:23 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-26**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 118 (98 - 122) bpm
   BP: 77/46(54) {0/0(0) - 0/0(0)} mmHg
   RR: 16 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 88.9 kg (admission): 77.4 kg
   Height: 69 Inch
   CVP: 8 (7 - 165)mmHg
   PAP: (58 mmHg) / (27 mmHg)
   PCWP: 23 (23 - 23) mmHg
   CO/CI (Thermodilution): (5.07 L/min) / (2.6 L/min/m2)
   SVR: 1,578 dynes*sec/cm5
   PVR: 394 dynes*sec/cm5
   SV: 43 mL
   SVI: 22 mL/m2
   Total In:
                                                                  1,513 mL
                                                                    842 mL
   PO:
   TF:
   IVF:
                                                                  1,208 mL
                                                                    842 mL
   Blood products:
                                                                    245 mL
   Total out:
                                                                  3,255 mL
                                                                    590 mL
   Urine:
                                                                  3,255 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,742 mL
                                                                    252 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 114
   RSBI Deferred: Vent Dependant
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 98%
   ABG: ///37/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: Bases, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Peg
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   54 K/uL
   121 mg/dL
   0.9 mg/dL
   37 mEq/L
   4.0 mEq/L
   44 mg/dL
   106 mEq/L
   149 mEq/L
   26.7 %
   7.1 K/uL
        [image002.jpg]
                             [**2130-4-23**]  03:25 PM
                             [**2130-4-24**]  04:13 AM
                             [**2130-4-24**]  04:18 AM
                             [**2130-4-24**]  03:45 PM
                             [**2130-4-24**]  03:59 PM
                             [**2130-4-25**]  04:40 AM
                             [**2130-4-25**]  04:48 AM
                             [**2130-4-25**]  03:29 PM
                             [**2130-4-25**]  05:00 PM
                             [**2130-4-26**]  03:09 AM
   WBC
   4.7
   5.2
   6.6
   9.9
   4.6
   7.1
   Hct
   28.1
   26.8
   29.6
   30.7
   26.7
   27.1
   26.7
   Plt
   57
   47
   47
   53
   53
   54
   Cr
   1.1
   1.0
   1.0
   0.9
   0.9
   0.9
   TCO2
   41
   37
   41
   Glucose
   173
   171
   183
   147
   138
   121
   Other labs: PT / PTT / INR:31.0/94.8/3.1, CK / CKMB /
   Troponin-T:20/1/0.02, ALT / AST:21/25, Alk Phos / T Bili:86/2.2,
   Amylase / Lipase:68/14, Differential-Neuts:79.0 %, Band:6.0 %,
   Lymph:5.0 %, Mono:9.0 %, Eos:1.0 %, Fibrinogen:399 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:1.6 g/dL, LDH:236 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR - Unchanged.
   Microbiology: No new micro.
   Assessment and Plan
   79 yo M with history of AS, pulmonary fibrosis who initially presented
   with pneumonia, now with prolonged hospital stay c/b septic and
   cardiogenic shock.
   #. HoTN: likely mixed cardiogenic and septic picture, currently most
   likely cardiogenic with low EF, AS, preload dependence.  Elevated PCWP
   with volume overload and he may be overdistended impairing EF.
   Increased pressor requirement overnight in setting of increased
   sedation.
   - Will diurese and aim for CVP 10-12, on lasix gtt
   - D/c PA line today
   - Wean levophed as tolerated
   #. ID: sputum culture remains negative todate
    - D/c vancomycin, flagyl and cipro [**4-24**]
    - D/c meropenem today (completed 17 day course)
    - Yeast in sputum / urine. S/p foley change. Glucan 49. No plans to
   treat for now.
   #. Respiratory failure: likely related to volume overload but has
   underlying recovering pneumonia as well as possible history of
   pulmonary fibrosis
    - Cont diuresis for now
    - Trach today with FFP and Vit K
    - Cont PSV trials and attempt to wean vent as tolerated after trach
   #. Thrombocytopenia: likely medication related, but will cont to
   follow, now off vancomycin
   - F/U PF4, hold heparin until HIT Ab is back
   - Trend platelet counts [**Hospital1 **]
   #. Atrial tachycardia: Stable
    - No BB given pressor requirement
    - Holding amiodarone given possible underlying lung disease
   #. Sacral decubitus ulcer: per nursing care appears more inflammed,
   will have plastic surgery attempt debridement, wound care recs
   #. Critical AS: S/p valvuloplasty [**4-21**]. No immediate plan for AVR. CT
   [**Doctor First Name 91**] following.
   #. FEN: PEG today.
   #. GOC: Full code, but family aware of poor prognosis.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-4-13**] 02:47 AM
   Multi Lumen - [**2130-4-15**] 12:58 PM
   Cordis/Introducer - [**2130-4-21**] 05:04 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, Argatroban)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2130-04-27 06:08:00 Physician Resident Progress Note
Chief Complaint: 79 yo M with critical aortic stenosis now s/p
   valvuloplasty and still intubated with recent VAP, hypoxia and
   respiratory distress, now s/p trach/PEG with plan for surgical AVR
   pending now until respiratory status improves
   24 Hour Events:
   - started on morphine and ativan for pain
   - awaiting path c/b re pf4 titer which was 0.8 per d/w heme resident.
   Still cannot say definitively if patient had HIT, but did not see
   benefit to argatroban gtt so argatroban discontinued
   - PEG gastrograffin study showed contrast emptied into the stomach so
   TF able to be resumed
   - Patient's pressor requirement increased to 0.3, patient still net
   +700ml positive, lasix gtt stopped 5pm.
   - Met with family who are leaning towards comfort given prolonged
   course and CT surgery with no plans for AVR unless patient weaned off
   ventilator. Plan to see trajectory in next 48 hours and readdress goals
   on Friday
   - patient very tachypneic with PS trial this morning, and ABG with low
   pO2 of 56 so Fi02 increased to 50
   Allergies:
   No Known Drug Allergies
   Thrombocytopeni
   Last dose of Antibiotics:
   Metronidazole - [**2130-4-24**] 08:00 AM
   Meropenem - [**2130-4-25**] 09:09 AM
   Infusions:
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-4-26**] 08:23 AM
   Lorazepam (Ativan) - [**2130-4-27**] 01:00 AM
   Morphine Sulfate - [**2130-4-27**] 05:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-27**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 125 (101 - 125) bpm
   BP: 77/46(54) {0/0(0) - 0/0(0)} mmHg
   RR: 17 (14 - 30) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 88.9 kg (admission): 77.4 kg
   Height: 69 Inch
    CVP: 7 (7 - 15)mmHg
   Total In:
                                                                  2,919 mL
                                                                  1,109 mL
   PO:
   TF:
                                                                     75 mL
                                                                    202 mL
   IVF:
                                                                  2,744 mL
                                                                    807 mL
   Blood products:
   Total out:
                                                                  1,465 mL
                                                                    310 mL
   Urine:
                                                                  1,390 mL
                                                                    310 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                  1,454 mL
                                                                    799 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 389 (320 - 389) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 114
   RSBI Deferred: RR >35
   PIP: 32 cmH2O
   Plateau: 27 cmH2O
   Compliance: 18.2 cmH2O/mL
   SpO2: 91%
   ABG: 7.48/53/56/36/13
   Ve: 7.4 L/min
   PaO2 / FiO2: 140
   Physical Examination:
   General:  sedated, intubated
   HEENT: PERRL, pale skin, OP clear
   CVS: loud 4/6 systolic murmur over LUSB, no rubs
   LUNGS: mild rhonchi appreciated over right/left apices and crackles
   over left lateral base
   ABD: PEG in place and appears c/d/i ,  nondistended
   SKIN: pale skin, scattered ecchymoses over knees bilaterally and small
   bruised area surrounding trach tube / no active oozing blood today
   EXT: pneumoboots in place
   Labs / Radiology
   87 K/uL
   8.5 g/dL
   242 mg/dL
   0.8 mg/dL
   36 mEq/L
   5.5 mEq/L
   42 mg/dL
   101 mEq/L
   141 mEq/L
   26.8 %
   10.6 K/uL
        [image002.jpg]
                             [**2130-4-24**]  03:59 PM
                             [**2130-4-25**]  04:40 AM
                             [**2130-4-25**]  04:48 AM
                             [**2130-4-25**]  03:29 PM
                             [**2130-4-25**]  05:00 PM
                             [**2130-4-26**]  03:09 AM
                             [**2130-4-26**]  11:00 AM
                             [**2130-4-26**]  02:52 PM
                             [**2130-4-27**]  04:01 AM
                             [**2130-4-27**]  04:34 AM
   WBC
   9.9
   4.6
   7.1
   7.8
   10.6
   Hct
   30.7
   26.7
   27.1
   26.7
   26.1
   26.8
   Plt
   53
   53
   54
   62
   87
   Cr
   0.9
   0.9
   0.9
   0.8
   TCO2
   37
   41
   41
   41
   Glucose
   147
   138
   121
   178
   242
   Other labs: PT / PTT / INR:24.0/56.0/2.3, CK / CKMB /
   Troponin-T:20/1/0.02, ALT / AST:26/86, Alk Phos / T Bili:71/2.4,
   Amylase / Lipase:68/14, Differential-Neuts:79.0 %, Band:6.0 %,
   Lymph:5.0 %, Mono:9.0 %, Eos:1.0 %, Fibrinogen:399 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:1.6 g/dL, LDH:236 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   79 yo M with critical aortic stenosis now s/p valvuloplasty and still
   intubated with recent VAP, hypoxia and respiratory distress, now s/p
   trach/PEG with plan for surgical AVR on hold now until respiratory
   status improves
   # Critical AS / systolic CHF:  s/p valvuloplasty with good effect on
   valve area (.4
.9cm2). Appears to be perfusing well at this time but
   did have some low BPs overnight requiring increase of pressors and
   lasix stopped.
   - will try to restart more gentle diuresis later today if BPs / CVPs
   more stable as he is now 1.7+L positive today  (goal I/O -1L, CVP
   10-12)
   - f/up CT surgery recs, plan is on hold for any AVR until respiratory
   status improves
   - limit tachycardia if possible
   # Hypotension: Likely related to critical AS, no evidence of active
   infection currently as still no fevers or leukocytosis now . [**Month (only) 8**] be a
   contribution from sedatives. Overnight he had some low BPs with need to
   increase pressor dose and lasix drip was shut off .
   - if BPs stable today can gently diurese for goal -1L  keeping CVPs
   10-12
   - Continue levophed, wean as tolerates
   - Follow urine output, MAPS goal >65
   - repeat central venous O2 and lactate
   - AM cortisol pending today
   # Respiratory failure:  s/p trach placement 2 days ago,  continues on
   A/C with failure of PS trials now.  More hypoxic on last ABG so Fio2
   was increased to .50.
   - will collect repeat ABG at increased Fi02 .50 now
   - continue to wean later today of tolerates
   - reattempt gentle diuresis as above with goal 1L out
   - continue with additional PSV trials
   # thrombocytopenias:
   Plts stable in the 80s range now . Repeat PF4 positive (titer .8)  and
   serotonin release assay are pending. Hematology following again and
   felt argatroban was not warranted so it was d/c last night .  No
   definitive HIT diagnosis yet per hematology.
   - heme following, f/up recs
   - holding any argatroban for now
   - f/u serotonin release assay
   - holding heparin / pneumoboots only for PPx
   - follow [**Hospital1 **] CBC/Plts & coags
   .
   #Atrial tachycardia:  Likely related to pressors, also consider anxiety
   and pain contribution. Once levophed increased seems patient was more
   tachycardic, in ST and not afib now.
   - wean pressor as tolerates
   - ativan prn, morphine prn for agitation component
   -telemetry
   -holding off on any BB in setting of pressors
   .
   # sacral decubitus sore : looking slightly worse per nursing
   - f/up local wound care recs, plastics eval appreciated
   - continue enzymatic debridement
   - call plastics for reeval today
   # Hypernatremia: Improving with free water flushes via PEG.
   - D5W flushes to be tapered today
   - check PM Na
   ICU Care
   Nutrition:  tubefeeds via PEG
   Nutren Pulmonary (Full) - [**2130-4-24**] 04:26 PM 45 mL/hour
   Glycemic Control:  SSI
   Lines:
   Arterial Line - [**2130-4-13**] 02:47 AM
   Multi Lumen - [**2130-4-15**] 12:58 PM
   Cordis/Introducer - [**2130-4-21**] 05:04 PM
   Prophylaxis:
   DVT:  boots
   Stress ulcer:  PPI
   VAP:   bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-04-27 10:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Sedation discontinued; prn ativan and morphine
   - "Failed" PS due to tachypnea
   - Lasix gtt d/c'ed due to worsening HoTN and increasing pressor
   requirements
   Allergies:
   No Known Drug Allergies
   Thrombocytopeni
   Last dose of Antibiotics:
   Meropenem - [**2130-4-25**] 09:09 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2130-4-27**] 01:00 AM
   Morphine Sulfate - [**2130-4-27**] 06:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-27**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 112 (101 - 125) bpm
   BP: 77/46(54) {0/0(0) - 0/0(0)} mmHg
   RR: 38 (15 - 38) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 88.9 kg (admission): 77.4 kg
   Height: 69 Inch
   CVP: 7 (7 - 15)mmHg
   Total In:
                                                                  2,778 mL
                                                                    728 mL
   PO:
   TF:
                                                                     75 mL
                                                                    380 mL
   IVF:
                                                                  2,603 mL
                                                                    249 mL
   Blood products:
   Total out:
                                                                  1,465 mL
                                                                    580 mL
   Urine:
                                                                  1,390 mL
                                                                    580 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                  1,313 mL
                                                                    148 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 389 (320 - 389) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 34 cmH2O
   Plateau: 28 cmH2O
   Compliance: 17.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.48/53/56/36/13
   Ve: 7.3 L/min
   PaO2 / FiO2: 112
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: Bases,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   87 K/uL
   242 mg/dL
   1.0 mg/dL
   36 mEq/L
   3.9 mEq/L
   42 mg/dL
   101 mEq/L
   141 mEq/L
   26.8 %
   10.6 K/uL
        [image002.jpg]
                             [**2130-4-24**]  03:59 PM
                             [**2130-4-25**]  04:40 AM
                             [**2130-4-25**]  04:48 AM
                             [**2130-4-25**]  03:29 PM
                             [**2130-4-25**]  05:00 PM
                             [**2130-4-26**]  03:09 AM
                             [**2130-4-26**]  11:00 AM
                             [**2130-4-26**]  02:52 PM
                             [**2130-4-27**]  04:01 AM
                             [**2130-4-27**]  04:34 AM
   WBC
   9.9
   4.6
   7.1
   7.8
   10.6
   Hct
   30.7
   26.7
   27.1
   26.7
   26.1
   26.8
   Plt
   53
   53
   54
   62
   87
   Cr
   0.9
   0.9
   0.9
   0.8
   1.0
   TCO2
   37
   41
   41
   41
   Glucose
   147
   138
   121
   178
   242
   Other labs: PT / PTT / INR:24.0/56.0/2.3, CK / CKMB /
   Troponin-T:20/1/0.02, ALT / AST:26/86, Alk Phos / T Bili:71/2.4,
   Amylase / Lipase:68/14, Differential-Neuts:79.0 %, Band:6.0 %,
   Lymph:5.0 %, Mono:9.0 %, Eos:1.0 %, Fibrinogen:399 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:1.6 g/dL, LDH:236 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR - No change.
   Microbiology: No new data.
   Assessment and Plan
   79 yo M with history of AS, pulmonary fibrosis who initially presented
   with pneumonia, now with prolonged hospital stay c/b septic and
   cardiogenic shock. Now s/p valvuloplasty with improved diuresis and s/p
   trach/Peg. Current active issues include persistent respiratory failure
   and worsening HoTN.
   #. HoTN: Initially mixed cardiogenic and septic picture, currently most
   likely cardiogenic with contributing factor from sedation.
   - Off lasix gtt for worsening HoTN with improvement in BPs. Now weaning
   pressors and restarting lasix gtt for goal TBB -500.
   - Wean  pressors consider changing to neo..
   - AM cortisol pending
   #. Respiratory failure: Likely related to volume overload but has
   underlying recovering pneumonia as well as possible history of
   pulmonary fibrosis. S/p trach.
   - Cont diuresis for now given increased O2requirement overnight.
   - Off sedation gtt. Transition to PSV. Attempt to wean vent/SBT as
   tolerated.
   - Completed course of antibiotics.
   #. Critical AS: S/p valvuloplasty [**4-21**]. No immediate plan for AVR. CT
   [**Doctor First Name 91**] has signed off until after patient off vent and stronger.
   #. Thrombocytopenia: HIT +. [**Month (only) 8**] be medication related as well.
   - Awaiting further studies. Heme following and asked us to d/c
   argatroban.
   #. Atrial tachycardia:
   - No BB given pressor requirement.
   - Holding amiodarone given possible underlying lung disease.
   - PRN pain control and ativan for anxiety/benzo withdrawal.
   #. GOC: Full code, but family aware of poor prognosis. Ongoing
   discussions with plans to make CMO tomorrow if no improvement.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2130-4-24**] 04:26 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2130-4-13**] 02:47 AM
   Multi Lumen - [**2130-4-15**] 12:58 PM
   Cordis/Introducer - [**2130-4-21**] 05:04 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill